2151-04-29 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2151-4-28**] 06:06 PM
 ARTERIAL LINE - START [**2151-4-28**] 11:58 PM
 BLOOD CULTURED - At [**2151-4-29**] 12:31 AM
   1 set from Aline, 1 set venipuncture
 EKG - At [**2151-4-29**] 05:59 AM
   - team discussed her previous course with her neurologist, Dr.
   [**Last Name (STitle) 6232**]
   - Intubated for hypercapnic respiratory failure
   - A-line placed
   - Developed metabolic alkalosis on AC
   - Developed hypokalemia/hypophosphotemia (2.7,0.9) (40K, 30KPhos
   running)
   - Neuro has not seen the patient but recommends Head CT, LP
   - Gram positive cocci in blood:  vancomycin added
   - Head CT done
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-4-28**] 10:08 PM
   Ampicillin - [**2151-4-29**] 01:57 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-4-28**] 11:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-4-29**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38
C (100.4
   HR: 103 (103 - 137) bpm
   BP: 98/62(70) {93/56(66) - 144/81(96)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,900 mL
                                                                    174 mL
   PO:
             TF:
   IVF:
                                                                  4,900 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  4,630 mL
                                                                    360 mL
   Urine:
                                                                  4,630 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    270 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 6,000 (6,000 - 6,000) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/38/152/27/7
   Ve: 5.8 L/min
   PaO2 / FiO2: 304
   Physical Examination
   GENERAL: cachectic middle aged woman lying in bed,  intubated and
   sedated
   HEENT: extremely dry MM, lips chafed and bleeding,
   NECK: supple, JVP not elevated
   CARD: regular, normal s1/s2
   RESP: using accessory muscles,  grunting with each expiration, clear
   lungs bilaterally with decreased sounds at bases
   ABD: scaphoid, normoactive bowel sounds, nontender
   BACK: No spinal tenderness, no CVA tenderness
   EXT: no cyanosis or edema, strong distal pulses
   NEURO: sedated, does not arouse to voice
   Labs / Radiology
   185 K/uL
   9.5 g/dL
   81 mg/dL
   0.5 mg/dL
   27 mEq/L
   2.7 mEq/L
   8 mg/dL
   105 mEq/L
   145 mEq/L
   29.4 %
   14.6 K/uL
        [image002.jpg]
                             [**2151-4-27**]  11:10 PM
                             [**2151-4-28**]  04:04 AM
                             [**2151-4-28**]  05:06 PM
                             [**2151-4-29**]  12:30 AM
                             [**2151-4-29**]  03:46 AM
                             [**2151-4-29**]  04:02 AM
   WBC
   14.8
   14.6
   Hct
   33.9
   29.4
   Plt
   216
   185
   Cr
   0.4
   0.5
   TCO2
   34
   40
   33
   31
   Glucose
   101
   81
   Other labs: PT / PTT / INR:13.4/21.7/1.1, ALT / AST:29/23, Alk Phos / T
   Bili:56/0.6, Differential-Neuts:84.1 %, Lymph:10.2 %, Mono:5.0 %,
   Eos:0.3 %, Lactic Acid:0.8 mmol/L, Albumin:4.1 g/dL, LDH:194 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:0.9 mg/dL
   MRI head [**4-10**]:  extensive [**Male First Name (un) 1983**] changes consistent with small vessel
   ischemic changes
   MRA head [**10-10**]:  no hemodynamically significant stenois
   CT head:  No acute intracranial pathology.
   Blood cx [**4-27**]:  G+ cocci in pairs and clusters
   Urine cx:  NGTD
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 DELIRIUM / CONFUSION
   A 52 year-old woman with a 6-month history of neurological
   deterioration, right arm weakness, and failure to thrive presents with
   increasing shortness of breath.
   .
   #) Respiratory failure: Patient developed hypercarbic respiratory
   failure yesterday evening secondary to weakness of respiratory
   muscles.  Cause is being worked up as below.  Also she may have an
   aspiration pneumonia contributing.  Major barrier to extubation is her
   neuromuscular weakness.  The course of this is most likely
   irreversible, but will need to complete work-up for  the underlying
   cause prior to discussing with family the options for tracheostomy vs
   extubation if the prognosis does not portend recovery.
   - continue ampicillin-sulbactam for likely aspiration PNA; will plan
   for 7-day course (day 1=[**4-28**])
   - discuss with neurology her prognosis from a neurologic standpoint
   - discuss with her family what her wishes would be going forward
   .
   #) Neurologic deterioration:  Yesterday, the team spoke to her
   neurologist about the work-up that has been done thus far.  She has had
   2 negative LPs and serial MRIs (6 months apart) that were not
   significantly different.  EMG has not yet been done.  MRI reports were
   obtained and are in the chart, suggestive of microvascular ischemic
   injury.  It may be possible that she does not have a leukodystrophy but
   instead two separate processes (ischemic changes in the brain and a
   peripheral neuropathy of some sort causing the weakness).  Our own
   neurology team will see her today and offer recommendations
   - repeat MRI; discuss with neuro what sequences they would like
   - discuss with neuro if there is any chance of a reversible component
   - encourage her daughter to try to get the actual images from her OSH
   (which would be helpful for neuro to use as comparison)
   .
   #) Gram positive cocci in blood:  likely contaminant given
 bottles
   positive.
   - start vancomycin pending speciation; will stop if coag negative,
   await sensitivities if SA
   - contact precautions
   .
   #) Refeeding syndrome:  In the context of virtually no PO intake x days
   and much decreased intake x months, tubefeeds were begun yesterday.
   She then developed severe hypophosphatemia and hypokalemia.
   - replete electrolytes
   - hold tube feeds until electrolytes are normalized
   .
   #) Metabolic alkalosis:  Contributions from recently corrected
   respiratory acidosis as well as secondary to the hypophosphatemia.
   - correct electrolyte abnormalities
   - continue to monitor
   .
   #) Dysphagia:  Secondary to neuromuscular weakness.  No need for a
   speech and swallow evaluation given obvious history of aspiration
   events.
   - strict NPO
   - address PEG vs NG tube in goals of care discussion with her daughter
   .
   #) Tachycardia: She is likely still volume depleted but may be
   tachycardic at baseline as well.
   -  1L IVNS now
   -  monitor for signs of volume overload
   .
   #) Fever:  Febrile to 100.7 in the ED, WBC now rising, suspicious for
   aspiration PNA as above.
   - ampicillin-sulbactam as above
   - PR tylenol PRN
   - f/u blood and urine cx
   .
   #) Hypertension:  On amlodipine and HCTZ at home.  Currently
   normotensive.
   - continue to hold all PO medicatiosn out of concern for
   currently normotensive.  Prefer to avoid all PO meds, including home
   amlodipine and HCTZ.
   .
   #) F/E/N:  strict NPO, replete lytes PRN
   <br>
   #) Prophylaxis:  heparin SC
   <br>
   #) Communication:  Daughter [**Name (NI) 1300**] (HCP):  [**Telephone/Fax (1) 6233**] (cell),
   [**Telephone/Fax (1) 6234**] (home
   <br>
   #) Access: PIV
   <br>
   #) Code Status:  full code (confirmed with daughter)
   <br>
   #) Dispo:  ICU pending above
   ICU Care
   Nutrition: tube feeds, thiamine and folate repletion
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-4-27**] 09:16 PM
   18 Gauge - [**2151-4-28**] 06:00 PM
   Arterial Line - [**2151-4-28**] 11:58 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-04-30 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2151-4-29**] 05:02 PM
 FEVER - 102.2
F - [**2151-4-29**] 04:00 PM
   - LP done
   - CDs obtained from OSH and uploaded
   - family is pushing for more interventions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-4-29**] 08:10 PM
   Ampicillin - [**2151-4-30**] 01:55 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-4-29**] 11:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-4-30**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.4
C (101.1
   HR: 107 (104 - 124) bpm
   BP: 110/77(84) {100/70(77) - 124/82(91)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,242 mL
                                                                  1,664 mL
   PO:
             TF:
   IVF:
                                                                  3,122 mL
                                                                  1,544 mL
   Blood products:
   Total out:
                                                                  1,945 mL
                                                                  1,220 mL
   Urine:
                                                                  1,945 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,297 mL
                                                                    444 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 281
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.50/39/92.[**Numeric Identifier 641**]/27/6
   Ve: 5.5 L/min
   PaO2 / FiO2: 232
   Physical Examination
   GENERAL: cachectic middle aged woman lying in bed,  intubated and
   sedated
   HEENT: ET tube in place
   NECK: supple, JVP not elevated
   CARD: regular, normal s1/s2
   RESP: clear anteriorly with decreased sounds at bases
   ABD: scaphoid, normoactive bowel sounds, nontender
   EXT: no cyanosis or edema, strong distal pulses
   NEURO: sedated, does not arouse to voice
   Labs / Radiology
   199 K/uL
   9.8 g/dL
   109 mg/dL
   0.3 mg/dL
   27 mEq/L
   4.3 mEq/L
   4 mg/dL
   108 mEq/L
   139 mEq/L
   28.8 %
   21.1 K/uL
        [image002.jpg]
                             [**2151-4-28**]  04:04 AM
                             [**2151-4-28**]  05:06 PM
                             [**2151-4-29**]  12:30 AM
                             [**2151-4-29**]  03:46 AM
                             [**2151-4-29**]  04:02 AM
                             [**2151-4-29**]  06:24 PM
                             [**2151-4-29**]  06:39 PM
                             [**2151-4-30**]  01:27 AM
                             [**2151-4-30**]  04:17 AM
                             [**2151-4-30**]  04:33 AM
   WBC
   14.8
   14.6
   19.0
   21.1
   Hct
   33.9
   29.4
   29.1
   28.8
   Plt
   [**Telephone/Fax (3) 6301**]99
   Cr
   0.4
   0.5
   0.3
   0.3
   0.3
   TCO2
   40
   33
   31
   32
   31
   Glucose
   101
   81
   111
   143
   104
   109
   Other labs: PT / PTT / INR:13.4/21.7/1.1, ALT / AST:29/23, Alk Phos / T
   Bili:56/0.6, Differential-Neuts:84.1 %, Lymph:10.2 %, Mono:5.0 %,
   Eos:0.3 %, Lactic Acid:0.8 mmol/L, Albumin:4.1 g/dL, LDH:194 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:1.7 mg/dL
   ESR:  60
   CRP: 256
   CSF:  Protein 16, glucose 66, 1 WBC, 0 RBC, 2 PMN, 84% lymphs, 14%
   monos, gram stain without PMN or organisms
   Blood cx [**4-27**]:  1 bottle [**4-27**] coag negative staph, subsequent cx
   negative
   Blood cx [**4-29**]:  NGTD
   Sputum [**4-29**]:  1+ GNR and >25 PMN
   Urine cx [**4-27**]:  no growth
   CXR:
   Assessment and Plan
 ALKALOSIS, METABOLIC
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 DYSPHAGIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 DELIRIUM / CONFUSION
   A 52 year-old woman with a 6-month history of neurological
   deterioration, right arm weakness, and failure to thrive presents with
   increasing shortness of breath.
   .
   #) Respiratory failure: Patient developed hypercarbic respiratory
   failure yesterday evening secondary to weakness of respiratory
   muscles.  Cause is being worked up as below.  Also she may have an
   aspiration pneumonia contributing.  Major barrier to extubation is her
   neuromuscular weakness.  The course of this is most likely
   irreversible, but will need to complete work-up for  the underlying
   cause prior to discussing with family the options for tracheostomy vs
   extubation if the prognosis does not portend recovery.
   - continue ampicillin-sulbactam for likely aspiration PNA; will plan
   for 7-day course (day 1=[**4-28**])
   - discuss with neurology her prognosis from a neurologic standpoint
   - discuss with her family what her wishes would be going forward
   .
   #) Fever and leukocytosis:  concerning for an infectious process.
   Fever curve is going up and WBC rising despite Unasyn/vanc.  GNR in
   sputum
   - broaden antibiotics to zosyn
   #) Neurologic deterioration:  Yesterday, the team spoke to her
   neurologist about the work-up that has been done thus far.  She has had
   2 negative LPs and serial MRIs (6 months apart) that were not
   significantly different.  EMG has not yet been done.  MRI reports were
   obtained and are in the chart, suggestive of microvascular ischemic
   injury.  It may be possible that she does not have a leukodystrophy but
   instead two separate processes (ischemic changes in the brain and a
   peripheral neuropathy of some sort causing the weakness).  Our own
   neurology team will see her today and offer recommendations
   - repeat MRI; discuss with neuro what sequences they would like
   - discuss with neuro if there is any chance of a reversible component
   - encourage her daughter to try to get the actual images from her OSH
   (which would be helpful for neuro to use as comparison)
   .
   #) Gram positive cocci in blood:  coag negative staph
   - d/c vanc
   - start vancomycin pending speciation; will stop if coag negative,
   await sensitivities if SA
   - contact precautions
   .
   #) Refeeding syndrome:  In the context of virtually no PO intake x days
   and much decreased intake x months, tubefeeds were begun yesterday.
   She then developed severe hypophosphatemia and hypokalemia.   This is
   consistent with refeeding.
   - replete electrolytes
   - hold tube feeds until electrolytes are normalized
   .
   #) Metabolic alkalosis:  Contributions from a compensatory alkalosis
   for a recently corrected respiratory acidosis as well as secondary to
   the hypophosphatemia.
   - correct electrolyte abnormalities
   - continue to monitor
   .
   #) Dysphagia:  Secondary to neuromuscular weakness.  No need for a
   speech and swallow evaluation given obvious history of aspiration
   events.
   - strict NPO
   - NG tube feeds (holding pending electrolyte repletion)
   .
   #) Tachycardia:  likely still has some degree of volume depletion
   contributing
   - 1L NS bolus
   ..
   #) Hypertension:  On amlodipine and HCTZ at home.  Currently
   normotensive.
   - no meds for now
   .
   #) F/E/N:  strict NPO, tube feeds, replete lytes PRN
   <br>
   #) Prophylaxis:  heparin SC
   <br>
   #) Communication:  Daughter [**Name (NI) 1300**] (HCP):  [**Telephone/Fax (1) 6233**] (cell),
   [**Telephone/Fax (1) 6234**] (home )
   <br>
   #) Access: PIV
   <br>
   #) Code Status:  full code (confirmed with daughter)
   <br>
   #) Dispo:  ICU pending above
   ICU Care
   Nutrition: tube feeds, thiamine and folate repletion
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-4-27**] 09:16 PM
   18 Gauge - [**2151-4-28**] 06:00 PM
   Arterial Line - [**2151-4-28**] 11:58 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Daughter [**Name (NI) 1300**] (HCP):  [**Telephone/Fax (1) 6233**] (cell),
   [**Telephone/Fax (1) 6234**] (home )
   Code status:  full code
   Disposition: ICU for now

2151-05-01 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2151-5-1**] 06:59 AM
 FEVER - 101.6
F - [**2151-4-30**] 04:00 PM
   - started zosyn, stopped vanc (GNR in sputum)
   - neuro talked to daughter at length regarding prognosis; daughter
   still wants to do everything
   - palliative care consulted; will see on Monday
   - lytes corrected; started TF
   - emailed IP regarding possible trach/PEG on Wednesday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2151-4-30**] 08:05 AM
   Vancomycin - [**2151-4-30**] 08:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-5-1**] 06:47 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-1**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.9
C (100.2
   HR: 101 (86 - 114) bpm
   BP: 94/56(66) {88/52(61) - 110/70(78)} mmHg
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,753 mL
                                                                    324 mL
   PO:
             TF:
                                                                     64 mL
                                                                     74 mL
   IVF:
                                                                  2,569 mL
                                                                    251 mL
   Blood products:
   Total out:
                                                                  3,015 mL
                                                                    790 mL
   Urine:
                                                                  3,015 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -262 mL
                                                                   -466 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 214
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 95%
   ABG: ///26/
   Ve: 5.4 L/min
   Physical Examination
   GENERAL: cachectic middle aged woman lying in bed,  intubated
   HEENT: ET tube in place, eyes open but not tracking
   NECK: supple, JVP not elevated
   CARD: regular, normal s1/s2, systolic murmur
   RESP: clear anteriorly with decreased sounds at bases
   ABD: scaphoid, normoactive bowel sounds, nontender
   EXT: no cyanosis or edema, strong distal pulses
   NEURO: sedated, does not arouse to voice
   Labs / Radiology
   191 K/uL
   8.8 g/dL
   80 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.7 mEq/L
   6 mg/dL
   106 mEq/L
   141 mEq/L
   26.1 %
   17.3 K/uL
        [image002.jpg]
                             [**2151-4-29**]  03:46 AM
                             [**2151-4-29**]  04:02 AM
                             [**2151-4-29**]  06:24 PM
                             [**2151-4-29**]  06:39 PM
                             [**2151-4-30**]  01:27 AM
                             [**2151-4-30**]  04:17 AM
                             [**2151-4-30**]  04:33 AM
                             [**2151-4-30**]  02:18 PM
                             [**2151-4-30**]  10:45 PM
                             [**2151-5-1**]  04:48 AM
   WBC
   14.6
   19.0
   21.1
   17.3
   Hct
   29.4
   29.1
   28.8
   26.1
   Plt
   185
   178
   199
   191
   Cr
   0.5
   0.3
   0.3
   0.3
   0.3
   0.3
   0.4
   TCO2
   31
   32
   31
   Glucose
   81
   111
   143
   104
   109
   90
   96
   80
   Other labs: PT / PTT / INR:13.8/34.1/1.2, ALT / AST:29/23, Alk Phos / T
   Bili:56/0.6, Differential-Neuts:84.1 %, Lymph:10.2 %, Mono:5.0 %,
   Eos:0.3 %, Lactic Acid:0.8 mmol/L, Albumin:4.1 g/dL, LDH:194 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Sputum gram stain:  1+ GNR, cx NGTD
   Blood cx NGTD
   Assessment and Plan
 ALKALOSIS, METABOLIC
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 DYSPHAGIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 DELIRIUM / CONFUSION
   A 52 year-old woman with a 6-month history of neurological
   deterioration, right arm weakness, and failure to thrive presents with
   increasing shortness of breath, likely recent aspiration events, now
   with evidence of PNA.
   .
   #) Pneumonia:  Abx changed to pip-tazo yesterday for retrocardiac and
   LLL PNA blossoming on CXR.  Sputum still without growth.  Still
   febrile.  WBC slightly improved today
   - f/u sputum cx
   .
   #) Respiratory failure:  Hypercarbic respiratory failure secondary to
   weakness of respiratory muscles.  Cause is being worked up as below.
   Pneumonia is also contributing.   We will need to discuss with family
   tracheostomy vs extubation given that neuro has basically concluded
   that there is little chance of recovery.  IP was alerted about possible
   trach/PEG next week.
   - continue treating PNA as above
   - palliative care will see her Monday
   .
   #) Neurologic deterioration:  Unknown cause.   LP, MRI, and further
   extensive work-up have been negative.  Differential per neuro is
   primarily prior disease vs early Alzheimers.  Neurology has spoken with
   her family about the grim prognosis.  They would like to go forward
   with aggressive measures.
   - EEG today (unlikely to be revealing, but for the sake of
   completeness)
   - palliative care will see her Monday
   .
   #) Gram positive cocci in blood:  coag negative staph in
 bottles.
   Likely contaminant.  Off vancomycin.
   .
   #) Refeeding syndrome:  Hypophos and hypokalemia in the context of TF,
   now corrected.  TF restarted yesterday.
   - restart TF slowly
   - frequent electrolyte checks and repeat PRN
   .
   #) Dysphagia:  Secondary to neuromuscular weakness.  No need for a
   speech and swallow evaluation given obvious history of aspiration
   events.
   - strict NPO
   - NG tube feeds (holding pending electrolyte repletion)
   .
   #) Tachycardia:  seems to be baseline
   ...
   #) Hypertension:  On amlodipine and HCTZ at home.  Currently
   normotensive.
   - no meds for now
   .
   #) F/E/N:  strict NPO, tube feeds, replete lytes PRN
   <br>
   #) Prophylaxis:  heparin SC
   <br>
   #) Communication:  Daughter [**Name (NI) 1300**] (HCP):  [**Telephone/Fax (1) 6233**] (cell),
   [**Telephone/Fax (1) 6234**] (home )
   <br>
   #) Access: PIV
   <br>
   #) Code Status:  full code (confirmed with daughter)
   <br>
   #) Dispo:  ICU pending above
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-4-30**] 05:37 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-4-28**] 11:58 PM
   18 Gauge - [**2151-4-29**] 09:29 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full code
   Disposition: ICU
   ------ Protected Section ------
   .
   Plan to continue pip-tazo for aspiration pneumonia with GNR.  If she
   does not improve after days will re-send sputum.
   Patient had an episode of transient hypotension during rounds which
   recovered before fluids could be started.  Plan to bolus IV fluids as
   needed if this happens again.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1708**] [**Last Name (NamePattern1) 3694**], MD
   on:[**2151-5-1**] 11:03 ------

2151-05-02 08:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2151-5-1**] 11:09 AM
 SPUTUM CULTURE - At [**2151-5-1**] 02:59 PM
   --transiently hypotensive, tachycardic yesterday morning, responsive to
   fluids
   --this am,sat lower after vent was stopped to insert heating coil, PEEP
   transiently increased with good response
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2151-4-30**] 08:05 AM
   Vancomycin - [**2151-4-30**] 08:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-5-2**] 05:41 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-5-1**] 11:38 PM
   Midazolam (Versed) - [**2151-5-2**] 04:05 AM
   Fentanyl - [**2151-5-2**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-2**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (98.9
   HR: 100 (80 - 133) bpm
   BP: 97/58(67) {85/51(59) - 153/90(105)} mmHg
   RR: 22 (14 - 34) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,517 mL
                                                                    409 mL
   PO:
             TF:
                                                                    397 mL
                                                                    227 mL
   IVF:
                                                                    810 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    800 mL
   Urine:
                                                                  2,460 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -943 mL
                                                                   -391 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 91%
   ABG: 7.43/45/71/25/4
   Ve: 6.1 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238 K/uL
   9.6 g/dL
   108 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.1 mEq/L
   6 mg/dL
   105 mEq/L
   139 mEq/L
   29.1 %
   16.1 K/uL
        [image002.jpg]
                             [**2151-4-29**]  06:39 PM
                             [**2151-4-30**]  01:27 AM
                             [**2151-4-30**]  04:17 AM
                             [**2151-4-30**]  04:33 AM
                             [**2151-4-30**]  02:18 PM
                             [**2151-4-30**]  10:45 PM
                             [**2151-5-1**]  04:48 AM
                             [**2151-5-1**]  03:39 PM
                             [**2151-5-2**]  03:55 AM
                             [**2151-5-2**]  05:07 AM
   WBC
   19.0
   21.1
   17.3
   16.1
   Hct
   29.1
   28.8
   26.1
   29.1
   Plt
   178
   199
   191
   238
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   0.4
   0.4
   TCO2
   32
   31
   31
   Glucose
   143
   104
   109
   90
   96
   80
   107
   108
   Other labs: PT / PTT / INR:12.4/32.8/1.0, ALT / AST:29/23, Alk Phos / T
   Bili:56/0.6, Differential-Neuts:84.1 %, Lymph:10.2 %, Mono:5.0 %,
   Eos:0.3 %, Lactic Acid:0.8 mmol/L, Albumin:4.1 g/dL, LDH:194 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: [**4-30**] CXR: retro cardiac opacity increased
   [**5-2**] CXR: NOT ORDERED, PENDING
   Microbiology: COAG NEG STAPH ON BCX [**4-27**]
   BCX [**4-29**] NGTD
   Sputum [**4-29**] 1+ GNRs
   Sputum [**5-1**] No organisms
   RPR pending
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 ALKALOSIS, METABOLIC
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 DYSPHAGIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DELIRIUM / CONFUSION
   A 52 year-old woman with a 6-month history of neurological
   deterioration, right arm weakness, and failure to thrive presents with
   increasing shortness of breath, likely recent aspiration events, now
   with evidence of PNA.
   .
   #) Pneumonia:  On pip-tazo yesterday for retrocardiac and LLL PNA
   blossoming on CXR.  Sputum with non-speciated GNRs.  Still febrile.
   WBC slightly improved today
   - f/u sputum cx
   - cont pip/tazo
   - repeat CXR
   .
   #) Respiratory failure:  Hypercarbic respiratory failure secondary to
   weakness of respiratory muscles.  Cause is being worked up as below.
   Pneumonia is also contributing.   We will need to discuss with family
   tracheostomy vs extubation given that neuro has basically concluded
   that there is little chance of recovery.  IP was alerted about possible
   trach/PEG next week.
   - continue treating PNA as above
   - palliative care will see her Monday
   .
   #) Neurologic deterioration:  Unknown cause.   LP, MRI, and further
   extensive work-up have been negative.  Differential per neuro is
   primarily prior disease vs early Alzheimers.  Neurology has spoken with
   her family about the grim prognosis.  They would like to go forward
   with aggressive measures.
   - EEG today (unlikely to be revealing, but for the sake of
   completeness)
   - palliative care will see her Monday
   .
   #) Gram positive cocci in blood:  coag negative staph in
 bottles.
   Likely contaminant.  Off vancomycin.
   .
   #) Refeeding syndrome:  Hypophos and hypokalemia in the context of TF,
   now corrected.  TF restarted yesterday.
   - restart TF slowly
   - frequent electrolyte checks and repeat PRN
   .
   #) Dysphagia:  Secondary to neuromuscular weakness.  No need for a
   speech and swallow evaluation given obvious history of aspiration
   events.
   - strict NPO
   - NG tube feeds (holding pending electrolyte repletion)
   .
   #) Tachycardia:  seems to be baseline
   ...
   #) Hypertension:  On amlodipine and HCTZ at home.  Currently
   normotensive.
   - no meds for now
   .
   #) F/E/N:  strict NPO, tube feeds, replete lytes PRN
   <br>
   #) Prophylaxis:  heparin SC
   <br>
   #) Communication:  Daughter [**Name (NI) 1300**] (HCP):  [**Telephone/Fax (1) 6233**] (cell),
   [**Telephone/Fax (1) 6234**] (home )
   <br>
   #) Access: PIV
   <br>
   #) Code Status:  full code (confirmed with daughter)
   <br>
   #) Dispo:  ICU pending above
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-2**] 12:57 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-4-28**] 11:58 PM
   18 Gauge - [**2151-4-29**] 09:29 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2151-05-03 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt required elevated level of PEEP throughout yesterday to maintain
   sats and PO2, this initially occurred after brief period off vent for
   tubing change. Finally able to return to 5 of PEEP late last night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-4-30**] 08:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-5-3**] 05:49 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-5-2**] 08:31 AM
   Fentanyl - [**2151-5-2**] 06:17 PM
   Midazolam (Versed) - [**2151-5-2**] 06:18 PM
   Heparin Sodium (Prophylaxis) - [**2151-5-2**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-3**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 84 (79 - 113) bpm
   BP: 97/55(65) {89/55(64) - 135/78(92)} mmHg
   RR: 16 (8 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,096 mL
                                                                    615 mL
   PO:
             TF:
                                                                  1,103 mL
                                                                    357 mL
   IVF:
                                                                    683 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    600 mL
   Urine:
                                                                  1,940 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    156 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.43/45/84.[**Numeric Identifier 1132**]/29/4
   Ve: 5 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Awake but not responsive, not tracking, moving all exts spontaneously,
   decresed BS over the left base both anteriorlya nd posteriorly
   Labs / Radiology
   223 K/uL
   8.9 g/dL
   109 mg/dL
   0.3 mg/dL
   29 mEq/L
   3.9 mEq/L
   7 mg/dL
   104 mEq/L
   141 mEq/L
   26.7 %
   8.9 K/uL
        [image002.jpg]
                             [**2151-4-30**]  04:33 AM
                             [**2151-4-30**]  02:18 PM
                             [**2151-4-30**]  10:45 PM
                             [**2151-5-1**]  04:48 AM
                             [**2151-5-1**]  03:39 PM
                             [**2151-5-2**]  03:55 AM
                             [**2151-5-2**]  05:07 AM
                             [**2151-5-2**]  05:10 PM
                             [**2151-5-2**]  05:39 PM
                             [**2151-5-3**]  04:00 AM
   WBC
   17.3
   16.1
   8.9
   Hct
   26.1
   29.1
   26.7
   Plt
   191
   238
   223
   Cr
   0.3
   0.3
   0.4
   0.4
   0.4
   0.3
   0.3
   TCO2
   31
   31
   31
   Glucose
   109
   90
   96
   80
   107
   108
   95
   109
   Other labs: PT / PTT / INR:12.4/32.7/1.0, ALT / AST:29/23, Alk Phos / T
   Bili:56/0.6, Differential-Neuts:58.2 %, Lymph:31.3 %, Mono:6.0 %,
   Eos:4.2 %, Lactic Acid:0.8 mmol/L, Albumin:4.1 g/dL, LDH:194 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: cxr
   Microbiology: micro
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 ALKALOSIS, METABOLIC
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 DYSPHAGIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DELIRIUM /
   CONFUSION
   A 52 year-old woman with a 6-month history of progressive neurological
   deterioration irst with cognitive symptoms, then progressive aphasia,
   diffculty swallowing/ aspiration, skeletal muscle weakness and atrophy;
   intubated for increased work of breathing and progressive hypercarbia
   in setting of aspiration PNA overlying her neurologically driven
   weakness.  Grim prognosis from neuro despite lack of diagnosis.
   #) Pneumonia:  On pip-tazo for retrocardiac and LLL PNA;  now worsening
   on CXR as lingula seems to be newly involved; CXR progression could
   also be new atelectasis.  Sputum with non-speciated GNRs on gram stain
   which have not yet grown in culture.  Still with low grade fevers.  WBC
   relatively stable.
   - bronch today over concern for progressive LLL and lingular collapse
   - increase PEEP to 10 with hope of recruiting additional alveoli
   - f/u sputum cx
   - cont pip/tazo
   - repeat CXR daily
   .
   #) Respiratory failure:  Hypercarbic respiratory failure secondary to
   weakness of respiratory muscles further decompensated by overlying
   PNA.   Neuro giving grim prognosis although diagnosis unclear at this
   point.  Family wishes to pursue trach and PEG.
   - increase PEEP to 10 with hope of recruiting additional alveoli
   - continue treating PNA as above; bronch as above
   - palliative care will see her Monday
   - IP aware and will pursue trach/peg on tues v wed.
   .
   #) Neurologic deterioration:  Unknown cause.   LP, MRI, and further
   extensive work-up have been negative.  Differential per neuro is
   primarily prior disease vs early Alzheimers.  Neurology has spoken with
   her family about the grim prognosis.  They would like to go forward
   with aggressive measures as above
   -  EEG by neuro? Unclear if they still want this.
   - palliative care will see her Monday
   - f/u pending studies: 1533, etc.
   .
   #) Gram positive cocci bacterimia?:  coag negative staph in 1 of 4
   bottles.   Likely contaminant.  Off vancomycin.
   .
   #) Refeeding syndrome:  Hypophos and hypokalemia in the context of TF,
   now corrected s/p aggressive electrolyte repletion.  Overall
   electrolyte requirement has diminished.
   - frequent electrolyte checks ([**Hospital1 **]) and repeat PRN
   - continue tube feeds
   .
   #) Dysphagia:  Secondary to neuromuscular weakness.  No need for a
   speech and swallow evaluation given obvious history of aspiration
   events.
   - strict NPO
   - NG tube feeds
   - PEG
   .
   #) Tachycardia:  seems to be either baseline or compensatory for
   ongoing infxn; does not appear to be volume depleted. Continue to
   monitor.
   #) Hypertension:  On amlodipine and HCTZ at home.  Currently BP is on
   low side
   - reduce sedation and re-assess
   ICU Care
   Nutrition:
   Tube feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-4-28**] 11:58 PM
   18 Gauge - [**2151-4-29**] 09:29 AM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: h2b
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: icu

2151-05-04 07:33:00 Physician Resident Progress Note
MICU Intern Progress Note:
   Chief Complaint:
   24 Hour Events:
   - BAL- suctioned good amount of mucous, did not keep for cx
   - sbp 70 @ 3pm -> 500cc bolus, after bal so likely from incr sedation,
   resolved
   - lost A-line -> PICC in AM
   - holding TF p MN for trach - BUT daughter not aware of plan for trach
   and need to discuss with her
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2151-5-3**] 05:49 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-5-3**] 08:03 AM
   Famotidine (Pepcid) - [**2151-5-3**] 09:03 AM
   Midazolam (Versed) - [**2151-5-3**] 02:25 PM
   Fentanyl - [**2151-5-3**] 02:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-4**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 106 (80 - 113) bpm
   BP: 119/76(86) {80/47(58) - 143/78(89)} mmHg
   RR: 21 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,932 mL
                                                                    327 mL
   PO:
             TF:
                                                                    597 mL
   IVF:
                                                                  1,335 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    740 mL
   Urine:
                                                                  1,780 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    152 mL
                                                                   -413 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 5.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   264 K/uL
   9.0 g/dL
   87 mg/dL
   0.4 mg/dL
   28 mEq/L
   5.1 mEq/L
   6 mg/dL
   102 mEq/L
   137 mEq/L
   26.4 %
   7.9 K/uL
        [image002.jpg]
                             [**2151-4-30**]  02:18 PM
                             [**2151-4-30**]  10:45 PM
                             [**2151-5-1**]  04:48 AM
                             [**2151-5-1**]  03:39 PM
                             [**2151-5-2**]  03:55 AM
                             [**2151-5-2**]  05:07 AM
                             [**2151-5-2**]  05:10 PM
                             [**2151-5-2**]  05:39 PM
                             [**2151-5-3**]  04:00 AM
                             [**2151-5-4**]  05:03 AM
   WBC
   17.3
   16.1
   8.9
   7.9
   Hct
   26.1
   29.1
   26.7
   26.4
   Plt
   191
   238
   223
   264
   Cr
   0.3
   0.3
   0.4
   0.4
   0.4
   0.3
   0.3
   0.4
   TCO2
   31
   31
   Glucose
   90
   96
   80
   107
   108
   95
   109
   87
   Other labs: PT / PTT / INR:12.5/28.4/1.1, ALT / AST:29/23, Alk Phos / T
   Bili:56/0.6, Differential-Neuts:58.2 %, Lymph:31.3 %, Mono:6.0 %,
   Eos:4.2 %, Lactic Acid:0.8 mmol/L, Albumin:4.1 g/dL, LDH:194 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   A 52 year-old woman with a 6-month history of progressive neurological
   deterioration irst with cognitive symptoms, then progressive aphasia,
   diffculty swallowing/ aspiration, skeletal muscle weakness and atrophy;
   intubated for increased work of breathing and progressive hypercarbia
   in setting of aspiration PNA overlying her neurologically driven
   weakness.  Grim prognosis from neuro despite lack of diagnosis.
   #) Pneumonia:  On pip-tazo for retrocardiac and LLL PNA;  now worsening
   on CXR as lingula seems to be newly involved; CXR progression could
   also be new atelectasis.  Sputum with non-speciated GNRs on gram stain
   which have not yet grown in culture.  Still with low grade fevers.  WBC
   relatively stable.
   - bronch today over concern for progressive LLL and lingular collapse
   - increase PEEP to 10 with hope of recruiting additional alveoli
   - f/u sputum cx
   - cont pip/tazo
   - repeat CXR daily
   .
   #) Respiratory failure:  Hypercarbic respiratory failure secondary to
   weakness of respiratory muscles further decompensated by overlying
   PNA.   Neuro giving grim prognosis although diagnosis unclear at this
   point.  Family wishes to pursue trach and PEG.
   - increase PEEP to 10 with hope of recruiting additional alveoli
   - continue treating PNA as above; bronch as above
   - palliative care will see her Monday
   - IP aware and will pursue trach/peg on tues v wed.
   .
   #) Neurologic deterioration:  Unknown cause.   LP, MRI, and further
   extensive work-up have been negative.  Differential per neuro is
   primarily prior disease vs early Alzheimers.  Neurology has spoken with
   her family about the grim prognosis.  They would like to go forward
   with aggressive measures as above
   -  EEG by neuro? Unclear if they still want this.
   - palliative care will see her Monday
   - f/u pending studies: 1533, etc.
   .
   #) Gram positive cocci bacterimia?:  coag negative staph in 1 of 4
   bottles.   Likely contaminant.  Off vancomycin.
   .
   #) Refeeding syndrome:  Hypophos and hypokalemia in the context of TF,
   now corrected s/p aggressive electrolyte repletion.  Overall
   electrolyte requirement has diminished.
   - frequent electrolyte checks ([**Hospital1 **]) and repeat PRN
   - continue tube feeds
   .
   #) Dysphagia:  Secondary to neuromuscular weakness.  No need for a
   speech and swallow evaluation given obvious history of aspiration
   events.
   - strict NPO
   - NG tube feeds
   - PEG
   .
   #) Tachycardia:  seems to be either baseline or compensatory for
   ongoing infxn; does not appear to be volume depleted. Continue to
   monitor.
   #) Hypertension:  On amlodipine and HCTZ at home.  Currently BP is on
   low side
   - reduce sedation and re-assess
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-4-28**] 04:42 PM
   20 Gauge - [**2151-4-28**] 04:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-05-05 07:40:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - PICC line placed
   - started on MIE (mechanical insufflation-exsufflation) q4hr w removal
   of copious thick yellow mucus
   - planning for family meeting
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2151-5-3**] 05:49 AM
   Piperacillin - [**2151-5-5**] 05:44 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-5-4**] 08:03 AM
   Heparin Sodium (Prophylaxis) - [**2151-5-5**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-5**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 96 (79 - 116) bpm
   BP: 99/69(76) {80/47(55) - 143/87(99)} mmHg
   RR: 13 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,408 mL
                                                                    363 mL
   PO:
             TF:
                                                                    230 mL
                                                                    191 mL
   IVF:
                                                                  1,179 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,740 mL
                                                                    400 mL
   Urine:
                                                                  2,740 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,332 mL
                                                                    -37 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 4.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   320 K/uL
   8.4 g/dL
   105 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   6 mg/dL
   103 mEq/L
   137 mEq/L
   25.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2151-4-30**]  10:45 PM
                             [**2151-5-1**]  04:48 AM
                             [**2151-5-1**]  03:39 PM
                             [**2151-5-2**]  03:55 AM
                             [**2151-5-2**]  05:07 AM
                             [**2151-5-2**]  05:10 PM
                             [**2151-5-2**]  05:39 PM
                             [**2151-5-3**]  04:00 AM
                             [**2151-5-4**]  05:03 AM
                             [**2151-5-5**]  05:14 AM
   WBC
   17.3
   16.1
   8.9
   7.9
   9.2
   Hct
   26.1
   29.1
   26.7
   26.4
   25.0
   Plt
   191
   238
   223
   264
   320
   Cr
   0.3
   0.4
   0.4
   0.4
   0.3
   0.3
   0.4
   0.4
   TCO2
   31
   31
   Glucose
   96
   80
   107
   108
   95
   109
   87
   105
   Other labs: PT / PTT / INR:12.5/28.4/1.1, ALT / AST:29/23, Alk Phos / T
   Bili:56/0.6, Differential-Neuts:58.2 %, Lymph:31.3 %, Mono:6.0 %,
   Eos:4.2 %, Lactic Acid:0.8 mmol/L, Albumin:4.1 g/dL, LDH:194 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   52F w progressive neurological deterioration of unclear etiology x 6
   mos c/b aspiration PNA requiring ICU admission and intubation.
   # Neurologic deterioration: Unknown etiology after extensive workup.
   Grim prognosis per neuro.
    - neuro recs
   - considering repeat MRI brain for interval change, but question need
   at this point
   - would need brain tissue bx, if at all possible and family still
   wanting aggressive therapy
   # Aspiration PNA: [**1-4**] neuromuscular weakness. Retrocardiac and LLL
   opacity on CXR. Sputum with non-speciated GNRs on gram stain which have
   not grown in culture.  WBC stable. Afebrile.
   - MIE (mech insuffl-exsuffl) q4h to help remove secretion/mucus,
   bronchoscopy PRN
   - PEEP = 10 with hope of recruiting additional alveoli
   - f/u sputum cx
   - cont pip/tazo
   - repeat CXR daily
   # Respiratory failure:  Hypercarbic respiratory failure secondary to
   weakness of respiratory muscles further decompensated by overlying PNA.
   Neuro giving grim prognosis although diagnosis unclear at this point.
   - continue treating PNA as above; bronch as above
   - family meeting to discuss goals of care and further therapies
   (trach/PEG)
   - d/w palliative care
   # Dysphagia:  Secondary to neuromuscular weakness.  No need for a
   speech and swallow evaluation given obvious history of aspiration
   events.
   - strict NPO
   - NG tube feeds
   - consider PEG
   .
   # Tachycardia:  seems to be either baseline or compensatory for ongoing
   infxn; does not appear to be volume depleted. Continue to monitor.
   # Hypertension:  On amlodipine and HCTZ at home.  Currently BP is on
   low side, drops with sedation.
   - reduce sedation and re-assess
   - fluid boluses as needed
   - consider pressors, if hypotension refractory to boluses
   # Goals of care: family meeting to discuss this week
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-5**] 12:41 AM 25 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-5-4**] 10:05 AM
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-05-10 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**5-9**]
   -family decided against brain biopsy, but they do want trach and PEG
   -no growth on sputum cx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2151-5-8**] 05:28 AM
   Vancomycin - [**2151-5-9**] 08:09 PM
   Cefipime - [**2151-5-10**] 02:55 AM
   Ciprofloxacin - [**2151-5-10**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-5-9**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2151-5-9**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-10**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.5
C (99.5
   HR: 93 (85 - 128) bpm
   BP: 114/79(88) {110/71(82) - 143/89(99)} mmHg
   RR: 17 (12 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,886 mL
                                                                    637 mL
   PO:
             TF:
                                                                    788 mL
                                                                    335 mL
   IVF:
                                                                  1,018 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                    400 mL
   Urine:
                                                                  1,860 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     26 mL
                                                                    237 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 5.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   518 K/uL
   9.1 g/dL
   129 mg/dL
   0.4 mg/dL
   29 mEq/L
   3.8 mEq/L
   7 mg/dL
   105 mEq/L
   142 mEq/L
   29.1 %
   9.9 K/uL
        [image002.jpg]
                             [**2151-5-2**]  05:10 PM
                             [**2151-5-2**]  05:39 PM
                             [**2151-5-3**]  04:00 AM
                             [**2151-5-4**]  05:03 AM
                             [**2151-5-5**]  05:14 AM
                             [**2151-5-6**]  03:43 AM
                             [**2151-5-7**]  04:18 AM
                             [**2151-5-8**]  04:25 AM
                             [**2151-5-9**]  03:44 AM
                             [**2151-5-10**]  05:47 AM
   WBC
   8.9
   7.9
   9.2
   9.1
   7.3
   8.3
   10.8
   9.9
   Hct
   26.7
   26.4
   25.0
   24.4
   25.9
   24.8
   25.9
   29.1
   Plt
   223
   264
   320
   346
   377
   395
   451
   518
   Cr
   0.3
   0.3
   0.4
   0.4
   0.4
   0.4
   0.5
   0.4
   TCO2
   31
   Glucose
   95
   109
   87
   105
   112
   98
   113
   129
   Other labs: PT / PTT / INR:13.1/30.3/1.1, ALT / AST:29/23, Alk Phos / T
   Bili:56/0.6, Differential-Neuts:58.2 %, Lymph:31.3 %, Mono:6.0 %,
   Eos:4.2 %, Lactic Acid:0.8 mmol/L, Albumin:4.1 g/dL, LDH:194 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan (plan from [**5-9**])
   52F w progressive neurological deterioration of unclear etiology x 6
   mos c/b aspiration PNA requiring ICU admission and intubation.
   # Neurologic deterioration: Unknown etiology after extensive workup.
   DDx: vasculitis vs CJD vs Hashimoto
s encephalitis vs unknown. Grim
   prognosis. Family would not like to proceed with brain bx.
   - unlikely Hashimoto
s encephalopathy
 anti-thyroglobulin AB and
   anti-TPO AB negative
   -? CJD - 14.3.3 protein pending (biomarker for CJD/neuronal
   degradation)
   - will test for wipple
s disase with PCR, and bx when PEG placed
   # Respiratory failure: [**1-4**] neuromuscular weakness and overlying PNA.
   Pt failed NIF, continues on assist-control. Failed pressure support.
   - decrease sedation
   - continue mechical ventilation
   - contact IP for tracheostomy
 for [**5-11**], will be NPO
   - bronch to remove secretions as needed
   # HAP: [**1-4**] aspiration vs inability to clear lungs from neuromuscular
   weakness. Completed 8 day course of zosyn (5/29
 [**5-7**]). Sputum [**4-29**] w
   sparse GNR. Now w fevers again over weekend, restarted on
   vanc/cefe/cipro.
   - vanc/cefepime/cipro x 8 days (6/6
 [**5-15**])
   - f/u cxs
   - monitor fever curve
   # Dysphagia: [**1-4**] neuromuscular weakness.
   - NG tube feeds, but NPO at midnight
   - contact IP for PEG placement
Tuesday
   .
   # Tachycardia:  Improving; does not appear to be volume depleted.
   Continue to monitor.
   # Hypertension:  Home amlodipine and HCTZ held.  Lower pressures in the
   setting of sedation, now normotensive.
   - monitor pressures
   # Goals of care: FULL code, plan for trach, PEG and brain bx.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-9**] 11:21 PM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-5-4**] 10:05 AM
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: famoditine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: plan for trach and PEG tomorrow, NPO at MN

2151-05-12 06:16:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - PEG placed w duodenal bx for Whipple
s dz
   - tracheostomy done
   - left radial aline placed
   - continued on mech ventilation
   - rash on right shoulder - ? shingles
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-5-11**] 08:02 PM
   Acyclovir - [**2151-5-12**] 12:18 AM
   Metronidazole - [**2151-5-12**] 12:19 AM
   Cefipime - [**2151-5-12**] 02:11 AM
   Ciprofloxacin - [**2151-5-12**] 04:18 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-5-11**] 10:17 PM
   Midazolam (Versed) - [**2151-5-12**] 12:10 AM
   Fentanyl - [**2151-5-12**] 05:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-12**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 92 (89 - 122) bpm
   BP: 102/69(76) {90/62(69) - 129/77(88)} mmHg
   RR: 12 (12 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,513 mL
                                                                    338 mL
   PO:
             TF:
   IVF:
                                                                  1,363 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                    394 mL
   Urine:
                                                                  1,295 mL
                                                                    194 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                    218 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 5.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   498 K/uL
   8.4 g/dL
   96 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   8 mg/dL
   102 mEq/L
   138 mEq/L
   25.6 %
   11.7 K/uL
        [image002.jpg]
                             [**2151-5-3**]  04:00 AM
                             [**2151-5-4**]  05:03 AM
                             [**2151-5-5**]  05:14 AM
                             [**2151-5-6**]  03:43 AM
                             [**2151-5-7**]  04:18 AM
                             [**2151-5-8**]  04:25 AM
                             [**2151-5-9**]  03:44 AM
                             [**2151-5-10**]  05:47 AM
                             [**2151-5-11**]  02:20 AM
                             [**2151-5-12**]  04:00 AM
   WBC
   8.9
   7.9
   9.2
   9.1
   7.3
   8.3
   10.8
   9.9
   10.6
   11.7
   Hct
   26.7
   26.4
   25.0
   24.4
   25.9
   24.8
   25.9
   29.1
   28.5
   25.6
   Plt
   223
   264
   320
   346
   377
   395
   451
   518
   525
   498
   Cr
   0.3
   0.4
   0.4
   0.4
   0.4
   0.5
   0.4
   0.4
   0.4
   0.5
   Glucose
   109
   87
   105
   112
   98
   113
   129
   120
   91
   96
   Other labs: PT / PTT / INR:13.7/50.2/1.2, ALT / AST:29/23, Alk Phos / T
   Bili:56/0.6, Differential-Neuts:58.2 %, Lymph:31.3 %, Mono:6.0 %,
   Eos:4.2 %, Lactic Acid:0.8 mmol/L, Albumin:4.1 g/dL, LDH:194 IU/L,
   Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   52F w progressive neurological deterioration of unclear etiology x 6
   mos c/b PNA requiring ICU admission and intubation.
   # Respiratory failure: [**1-4**] neuromuscular weakness and overlying PNA
   (aspiration / HAP). S/p intubation on [**4-28**]. S/p tracheostomy [**5-11**]. S/p
   zosyn x 8 days (5/29
 [**5-7**]).
   - HAP:
   ----- vanc/cefepime/ciprofloxacin x 8 days (6/6
 [**5-15**])
   ----- f/u cxs
   ----- monitor fever curve
   - decrease sedation as tolerated
   - continue mechanical ventilation
 try switching to pressure support
   from assist control
   - MIE, bronch, change positioning to try to clear secretions as needed
   # Diarrhea: started on [**5-10**], unclear etiology, improved w/o
   intervention.
   - C. diff pending as no sample
   # Right shoulder rash: likely shingles
   - acyclovir (day 1 [**5-11**])
   - f/u DFA VZV of mouth lesion to r/o disseminated zoster
   # Neurologic deterioration: [**1-4**] diffuse white matter disease of unknown
   etiology. Extensive workup done, unrevealing. DDx: vasculitis vs CJD vs
   Whipple
s dz vs unknown. Grim prognosis. Family would not like to
   proceed with brain bx.
   -? CJD - 14.3.3 protein pending (biomarker for CJD/neuronal
   degradation)
   - f/u duodenal bx
   - Whipple
s dz PCR negative
   # Dysphagia: [**1-4**] neuromuscular weakness, s/p PEG placement [**5-11**].
   - PEG feeds to start Wed [**5-12**] @ 3pm
   - continue NPO
   .
   # Tachycardia: Unclear etiology. Does not appear to be [**1-4**] hypovolemia.
   - continue to monitor.
   # Hypertension: Home amlodipine and HCTZ held in the setting of low
   blood pressures.
   - continue to monitor pressures
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Arterial Line - [**2151-5-11**] 01:00 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 129**] status:  FULL code
   Disposition:

2151-05-17 07:57:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - 14.3.3 still pending
   - discontinued Cef, Vanc (6/6
 [**5-16**])
   - continue flagyl until third C. Diff negative (pending)
   - weaned of sedation sedation
   - due to alkalosis decreased RR to 10
   - daughter wants to meet with palliative care -> placed consult
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2151-5-15**] 04:00 AM
   Acyclovir - [**2151-5-16**] 12:00 AM
   Metronidazole - [**2151-5-16**] 12:00 AM
   Cefipime - [**2151-5-16**] 02:00 AM
   Vancomycin - [**2151-5-16**] 07:46 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-5-17**] 07:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-17**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 61 (61 - 110) bpm
   BP: 88/63(69) {88/63(69) - 145/115(120)} mmHg
   RR: 10 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
             Total In:
                                                                  2,109 mL
                                                                    692 mL
   PO:
             TF:
                                                                  1,013 mL
                                                                    351 mL
   IVF:
                                                                    556 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                    990 mL
                                                                  1,020 mL
   Urine:
                                                                    990 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,119 mL
                                                                   -328 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 4.9 L/min
   Physical Examination
   GEN: arousable, occasional smiles
   Skin: vesicular rash on back inferior to right scapula improved
   HEENT: s/p trach, PERRL
   CV: mild tachycardia, no murmurs
   CHEST: b/l breath sounds
   ABD: Soft, Bowel sounds present
   EXTR: warm
   Labs / Radiology
   339 K/uL
   8.1 g/dL
   116 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   7 mg/dL
   105 mEq/L
   138 mEq/L
   24.3 %
   6.1 K/uL
        [image002.jpg]
                             [**2151-5-12**]  01:35 PM
                             [**2151-5-12**]  05:46 PM
                             [**2151-5-13**]  03:41 AM
                             [**2151-5-14**]  04:32 AM
                             [**2151-5-15**]  04:23 AM
                             [**2151-5-15**]  02:39 PM
                             [**2151-5-15**]  02:42 PM
                             [**2151-5-16**]  05:24 AM
                             [**2151-5-16**]  07:20 AM
                             [**2151-5-17**]  04:10 AM
   WBC
   7.9
   7.8
   9.7
   6.3
   6.1
   Hct
   24.7
   24.5
   27.2
   25.2
   24.3
   Plt
   487
   438
   424
   400
   339
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   32
   34
   32
   Glucose
   138
   124
   126
   114
   107
   116
   Other labs: PT / PTT / INR:14.0/43.3/1.2, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:62.8 %, Lymph:28.1 %, Mono:5.1 %,
   Eos:3.8 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   52F w progressive neurological deterioration of unclear etiology x 6
   mos c/b PNA requiring ICU admission and intubation no ws/p trach.
   # Low-grade fevers: Continue to improve. Unclear etiology, ddx: line
   infxn (PICC, [**5-4**]) vs s zoster vs underlying chronic inflammatory
   process (CNS vasculitis?). Not likely to be acalculous cholecystitis
   given nl LFTs. S/p cefepime/vancomycin ([**Date range (1) 6671**]) for HAP.
   - d/c metronidazole based on negative C. Diff
   - f/u cxs
   - monitor fever curve, CIS
   # Respiratory failure: [**1-4**] neuromuscular weakness and overlying PNA
   (aspiration / HAP). S/p tracheostomy [**5-11**]. S/p Complete collapse of LLL
   [**1-4**] mucous plug. S/p zosyn x 8 days (5/29
 [**5-7**]) and
   cefepime/vancomycin ([**Date range (1) 6671**]) for HAP, w cipro double GNR coverage
   ([**Date range (1) 6656**]).
   - f/u cxs
   - monitor fever curve
   - continue mech ventilation, wean as tolerated worsens
   - wean sedation
   # Neurologic deterioration: [**1-4**] diffuse white matter disease of unknown
   etiology. Extensive workup done, unrevealing. DDx: CNS vasculitis vs
   demyelinating disorder vs CJD vs unknown. Family would like steroids
   but no brain bx. Prednisone started on [**5-15**].
   - prednisone 45mg daily (1mg/kg) ([**5-16**] - )
   - discuss dose and course w neuro
   -? CJD - 14.3.3 protein pending (biomarker for CJD/neuronal
   degradation)
   - review OSH records for HIV test
   - monitor mental status
   # Right shoulder rash: likely shingles, pain improved. Mouth lesion cx
   shows HSV-1, no VZV, hence not likely to be disseminated zoster.
   - acyclovir ([**5-11**] - )
   - gabapentin and lidocaine patch
   - sarna for itching
   # Dysphagia: [**1-4**] neuromuscular weakness, s/p PEG placement [**5-11**].
   - PEG feeds
   - continue NPO
   .
   # Tachycardia: Unclear etiology. Does not appear to be [**1-4**] hypovolemia.
   - continue to monitor.
   # Hypertension: Home amlodipine and HCTZ held in the setting of low
   blood pressures.
   - continue to monitor pressures
   # Depression: cries occasionally, chronic illness
   - continue citalopram 10mg
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-17**] 03:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments: Daughter
   [**Name (NI) 129**] status:  Full Code
   Disposition: Will require discharge to LTAC
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident
s note, including the assessment and plan. I would emphasize
   and add the following points:
   52 year old female with failure to thrive/weight loss and profound
   peripheral weakness, in setting of diffuse white matter brain disease.
   Has had extensive work-up. Admit from rehab [**4-27**] for concern for
   aspiration. Intubated [**4-28**] for worsening resp acidosis, in setting of
   weakness, severe electrolyte imbalance and aspiration pneumonia and
   remains ventilator-dependent because of poor neurologic function.
   After long discussion with family, they have decided to provide empiric
   steroids in case the underlying syndrome is being caused by either
   vasculitis or acute demyelinating syndrome
   On exam, T: 98.4  P 72  BP 135/78  RR 14  SaO2: 100%
   Patient responds to simple verbal commands  and moves left extremity
   well
   CTA bilaterally
   S1 S2 reg
   Soft NT ND
   No edema
   Critically ill 52 year old woman with neurodegenerative disease:
   1) Neuro- now undergoing steroid therapy empirically to treat
   vasculitis or acute demyleination syndrome
   - will discuss with neurology to determine the dose
   2) Acute Respiratory Failure/Pneumonia:
   - Change to pressure support and doing well
   - continue to monitor respiratory status
   3) Diarrhea
 check C. Diff
   4) Zoster: continue acyclovir and pain medications
   4) Nutrition
 Can begin tube feedings
   5) Family discussion, discussion with neurology and plan for placement
   Patient is Critically Ill
   Total time: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2151-5-17**] 16:34 ------

2151-05-18 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started on methylprednisolone 1gm IV daily x 5 days, as well as
   insulin/lisinopril while on steroids
   - d/c'd metronidazole (C. diff negative x 3)
   - pt on fentanyl gtt, pressure support
   - 2 episodes of agitation - responded well to haldol 1mg IV
   - checking HIV VL
   - PPD = 18mm @ [**Hospital1 1241**], ? need INH/pyridoxine -- per daughter
   ([**Name (NI) 6629**]) pt never received any TB medications before
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2151-5-16**] 12:00 AM
   Metronidazole - [**2151-5-16**] 12:00 AM
   Cefipime - [**2151-5-16**] 02:00 AM
   Vancomycin - [**2151-5-16**] 07:46 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2151-5-17**] 09:00 AM
   Haloperidol (Haldol) - [**2151-5-17**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2151-5-17**] 03:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-18**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 110 (64 - 124) bpm
   BP: 123/70(82) {85/50(59) - 183/161(130)} mmHg
   RR: 22 (11 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,861 mL
                                                                    559 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    320 mL
   IVF:
                                                                    371 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,015 mL
                                                                    410 mL
   Urine:
                                                                  2,015 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -154 mL
                                                                    149 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 384 (338 - 384) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 17 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 6 L/min
   Physical Examination
   GEN: arousable, occasional smiles
   Skin: vesicular rash on back inferior to right scapula improved
   HEENT: s/p trach, PERRL
   CV: mild tachycardia, no murmurs
   CHEST: b/l breath sounds
   ABD: Soft, Bowel sounds present
   EXTR: warm
   Labs / Radiology
   345 K/uL
   8.7 g/dL
   172 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.9 mEq/L
   7 mg/dL
   99 mEq/L
   138 mEq/L
   27.1 %
   7.3 K/uL
        [image002.jpg]
                             [**2151-5-12**]  05:46 PM
                             [**2151-5-13**]  03:41 AM
                             [**2151-5-14**]  04:32 AM
                             [**2151-5-15**]  04:23 AM
                             [**2151-5-15**]  02:39 PM
                             [**2151-5-15**]  02:42 PM
                             [**2151-5-16**]  05:24 AM
                             [**2151-5-16**]  07:20 AM
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
   WBC
   7.9
   7.8
   9.7
   6.3
   6.1
   7.3
   Hct
   24.7
   24.5
   27.2
   25.2
   24.3
   27.1
   Plt
   487
   438
   424
   400
   339
   345
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   34
   32
   Glucose
   138
   124
   126
   114
   107
   116
   172
   Other labs: PT / PTT / INR:14.0/43.3/1.2, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:62.8 %, Lymph:28.1 %, Mono:5.1 %,
   Eos:3.8 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 WOUND INFECTION
 .H/O FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 INEFFECTIVE COPING
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 ALKALOSIS, METABOLIC
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 DYSPHAGIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DELIRIUM / CONFUSION
   52F w progressive neurological deterioration of unclear etiology x 6
   mos c/b PNA requiring ICU admission and intubation no ws/p trach.
   # Low-grade fevers: Continue to improve. Unclear etiology, ddx: line
   infxn (PICC, [**5-4**]) vs s zoster vs underlying chronic inflammatory
   process (CNS vasculitis?). Not likely to be acalculous cholecystitis
   given nl LFTs. S/p cefepime/vancomycin ([**Date range (1) 6671**]) for HAP.
   - d/c metronidazole based on negative C. Diff
   - f/u cxs
   - monitor fever curve, CIS
   # Respiratory failure: [**1-4**] neuromuscular weakness and overlying PNA
   (aspiration / HAP). S/p tracheostomy [**5-11**]. S/p Complete collapse of LLL
   [**1-4**] mucous plug. S/p zosyn x 8 days (5/29
 [**5-7**]) and
   cefepime/vancomycin ([**Date range (1) 6671**]) for HAP, w cipro double GNR coverage
   ([**Date range (1) 6656**]).
   - f/u cxs
   - monitor fever curve
   - continue mech ventilation, wean as tolerated worsens
   - wean sedation
   # Neurologic deterioration: [**1-4**] diffuse white matter disease of unknown
   etiology. Extensive workup done, unrevealing. DDx: CNS vasculitis vs
   demyelinating disorder vs CJD vs unknown. Family would like steroids
   but no brain bx. Prednisone started on [**5-15**].
   - steroids increased to 1g methylpred for 5 days ([**Date range (1) 6706**])
   - discuss dose and course w neuro
   -? CJD - 14.3.3 protein pending (biomarker for CJD/neuronal
   degradation)
   - review OSH records for HIV test
   - monitor mental status
   - EMG to be arranged by neuro
   # Right shoulder rash: likely shingles, pain improved. Mouth lesion cx
   shows HSV-1, no VZV, hence not likely to be disseminated zoster.
   - acyclovir ([**5-11**] - )
   - gabapentin and lidocaine patch
   - sarna for itching
   # Dysphagia: [**1-4**] neuromuscular weakness, s/p PEG placement [**5-11**].
   - PEG feeds
   - continue NPO
   .
   # Tachycardia: Unclear etiology. Does not appear to be [**1-4**] hypovolemia.
   - continue to monitor.
   # Hypertension: Home amlodipine and HCTZ held in the setting of low
   blood pressures. Now with BPs in 150s
   - start lisinopril 2.5mg
   # Depression: cries occasionally, chronic illness
   - continue citalopram 10mg
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-18**] 02:58 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, will need transition to LTAC in future
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident
s note, including the assessment and plan. I would emphasize
   and add the following points:
   52 year old female with failure to thrive/weight loss and profound
   peripheral weakness, in setting of diffuse white matter brain disease.
   Has had extensive work-up. Admit from rehab [**4-27**] for concern for
   aspiration. Intubated [**4-28**] for worsening resp acidosis, in setting of
   weakness, severe electrolyte imbalance and aspiration pneumonia and
   remains ventilator-dependent because of poor neurologic function.
   After long discussion with family, they have decided to provide empiric
   steroids in case the underlying syndrome is being caused by either
   vasculitis or acute demyelinating syndrome
   On exam, T: 98.4 P 72 BP 135/78 RR 14 SaO2: 100%
   Patient responds to simple verbal commands and moves left extremity
   well
   CTA bilaterally
   S1 S2 reg
   Soft NT ND
   No edema
   Critically ill 52 year old woman with neurodegenerative disease:
   1) Neuro- now undergoing steroid therapy empirically to treat
   vasculitis or acute demyleination syndrome
   - Currently undergoing pulse-dose steroids
   2) Acute Respiratory Failure/Pneumonia:
   - Change to pressure support if tolerates
   - continue to monitor respiratory status
   3) Diarrhea
 check C. Diff
   4) Zoster: continue acyclovir and pain medications
   4) Nutrition
 Can begin tube feedings
   Patient is Critically Ill
   Total time: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2151-5-19**] 12:51 AM ------

2151-05-19 07:17:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   24 Hour Events:
   - started calcium and vit D
   - started INH and B6
   - on PS 8/5
   - decreased lisiopril to 2.5mg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-5-16**] 07:46 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-5-18**] 08:38 PM
   Heparin Sodium (Prophylaxis) - [**2151-5-18**] 08:39 PM
   Haloperidol (Haldol) - [**2151-5-19**] 12:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-19**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.5
   HR: 63 (63 - 133) bpm
   BP: 101/60(70) {96/51(63) - 169/102(126)} mmHg
   RR: 13 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
             Total In:
                                                                  2,094 mL
                                                                    739 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    326 mL
   IVF:
                                                                    404 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    520 mL
   Urine:
                                                                  1,240 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    654 mL
                                                                    219 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (306 - 376) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 5.3 L/min
   Physical Examination
   GEN: arousable, occasional smiles
   Skin: vesicular rash on back inferior to right scapula improved
   HEENT: s/p trach, PERRL
   CV: mild tachycardia, no murmurs
   CHEST: b/l breath sounds
   ABD: Soft, Bowel sounds present
   EXTR: warm
   Labs / Radiology
   307 K/uL
   8.5 g/dL
   196 mg/dL
   0.4 mg/dL
   33 mEq/L
   4.0 mEq/L
   9 mg/dL
   99 mEq/L
   138 mEq/L
   25.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2151-5-13**]  03:41 AM
                             [**2151-5-14**]  04:32 AM
                             [**2151-5-15**]  04:23 AM
                             [**2151-5-15**]  02:39 PM
                             [**2151-5-15**]  02:42 PM
                             [**2151-5-16**]  05:24 AM
                             [**2151-5-16**]  07:20 AM
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
   WBC
   7.9
   7.8
   9.7
   6.3
   6.1
   7.3
   8.4
   Hct
   24.7
   24.5
   27.2
   25.2
   24.3
   27.1
   25.4
   Plt
   487
   438
   424
   400
   339
   345
   307
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   34
   32
   Glucose
   124
   126
   114
   107
   116
   172
   196
   Other labs: PT / PTT / INR:14.0/43.3/1.2, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:62.8 %, Lymph:28.1 %, Mono:5.1 %,
   Eos:3.8 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 WOUND INFECTION
 .H/O FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 INEFFECTIVE COPING
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 ALKALOSIS, METABOLIC
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 DYSPHAGIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DELIRIUM / CONFUSION
   52F w progressive neurological deterioration of unclear etiology x 6
   mos c/b PNA requiring ICU admission and intubation no ws/p trach.
   # Low-grade fevers: Continue to improve. Unclear etiology, ddx: line
   infxn (PICC, [**5-4**]) vs s zoster vs underlying chronic inflammatory
   process (CNS vasculitis?). Not likely to be acalculous cholecystitis
   given nl LFTs. S/p cefepime/vancomycin ([**Date range (1) 6671**]) for HAP.
   - d/c metronidazole based on negative C. Diff
   - f/u cxs
   - monitor fever curve, CIS
   # Respiratory failure: [**1-4**] neuromuscular weakness and overlying PNA
   (aspiration / HAP). S/p tracheostomy [**5-11**]. S/p Complete collapse of LLL
   [**1-4**] mucous plug. S/p zosyn x 8 days (5/29
 [**5-7**]) and
   cefepime/vancomycin ([**Date range (1) 6671**]) for HAP, w cipro double GNR coverage
   ([**Date range (1) 6656**]).
   - f/u cxs
   - monitor fever curve
   - continue mech ventilation, wean as tolerated worsens
   - wean sedation
   # Neurologic deterioration: [**1-4**] diffuse white matter disease of unknown
   etiology. Extensive workup done, unrevealing. DDx: CNS vasculitis vs
   demyelinating disorder vs CJD vs unknown. Family would like steroids
   but no brain bx. Prednisone started on [**5-15**].
   - steroids increased to 1g methylpred for 5 days ([**Date range (1) 6706**])
   - discuss dose and course w neuro
   -? CJD - 14.3.3 protein pending (biomarker for CJD/neuronal
   degradation)
   - review OSH records for HIV test
   - monitor mental status
   - EMG to be arranged by neuro
   # Right shoulder rash: likely shingles, pain improved. Mouth lesion cx
   shows HSV-1, no VZV, hence not likely to be disseminated zoster.
   - acyclovir ([**5-11**] - )
   - gabapentin and lidocaine patch
   - sarna for itching
   # Dysphagia: [**1-4**] neuromuscular weakness, s/p PEG placement [**5-11**].
   - PEG feeds
   - continue NPO
   .
   # Tachycardia: Unclear etiology. Does not appear to be [**1-4**] hypovolemia.
   - continue to monitor.
   # Hypertension: Home amlodipine and HCTZ held in the setting of low
   blood pressures. Now with BPs in 150s
   - start lisinopril 2.5mg
   # Depression: cries occasionally, chronic illness
   - continue citalopram 10mg
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-19**] 02:43 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, will need transition to LTAC in future

2151-05-20 07:45:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - Based on EMG: ALS with frontotemporal dementia, grim prognosis,
   stopped steroids
   - Palliative care spoke to daughter
   Allergies:
   [**Name2 (NI) 83**] Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2151-5-19**] 11:39 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-20**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 60 (60 - 119) bpm
   BP: 108/59(72) {77/47(54) - 166/93(110)} mmHg
   RR: 12 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
             Total In:
                                                                  2,241 mL
                                                                    500 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    341 mL
   IVF:
                                                                    504 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  1,385 mL
                                                                    400 mL
   Urine:
                                                                  1,185 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    856 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 352 (276 - 352) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   339 K/uL
   8.9 g/dL
   151 mg/dL
   0.4 mg/dL
   36 mEq/L
   3.9 mEq/L
   10 mg/dL
   99 mEq/L
   141 mEq/L
   27.3 %
   12.7 K/uL
        [image002.jpg]
                             [**2151-5-14**]  04:32 AM
                             [**2151-5-15**]  04:23 AM
                             [**2151-5-15**]  02:39 PM
                             [**2151-5-15**]  02:42 PM
                             [**2151-5-16**]  05:24 AM
                             [**2151-5-16**]  07:20 AM
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
   WBC
   7.8
   9.7
   6.3
   6.1
   7.3
   8.4
   12.7
   Hct
   24.5
   27.2
   25.2
   24.3
   27.1
   25.4
   27.3
   Plt
   [**Telephone/Fax (3) 6741**]
   339
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   TCO2
   34
   32
   Glucose
   126
   114
   107
   116
   172
   196
   151
   Other labs: PT / PTT / INR:14.0/43.3/1.2, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:62.8 %, Lymph:28.1 %, Mono:5.1 %,
   Eos:3.8 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   52F w progressive neurological deterioration of unclear etiology x 6
   mos c/b PNA requiring ICU admission and intubation s/p trach.
   # Neurologic deterioration: [**1-4**] diffuse white matter disease
 EMG
   consistent w ALS. S/p methylprednisolone 1000mg [**Date range (1) 6742**]). Poor
   prognosis.
   - f/u palliative c/s
   - monitor mental status
   -? CJD - 14.3.3 protein pending (biomarker for CJD/neuronal
   degradation)
   # Respiratory failure: [**1-4**] neuromuscular weakness and overlying PNA
   (aspiration / HAP). S/p tracheostomy [**5-11**]. S/p Complete collapse of LLL
   [**1-4**] mucous plug. S/p zosyn x 8 days (5/29
 [**5-7**]) and
   cefepime/vancomycin ([**Date range (1) 6671**]) for HAP, w cipro double GNR coverage
   ([**Date range (1) 6656**]).
   - f/u cxs
   - continue mech ventilation w trach
   - wean pressure support as tolerated
   - wean sedation
   # Right shoulder rash: likely shingles, pain improved. Mouth lesion cx
   shows HSV-1, no VZV, hence not likely to be disseminated zoster.
   - acyclovir x 14 days (6/9
 [**5-24**])
   - lidocaine patch
   - stop gabapentin
   - sarna for itching
   # Dysphagia: [**1-4**] neuromuscular weakness, s/p PEG placement [**5-11**].
   - PEG feeds
   - continue NPO
   # Low-grade fevers: Continue to improve. Unclear etiology, ddx: line
   infxn (PICC, [**5-4**]) vs s zoster vs underlying chronic inflammatory
   process (CNS vasculitis?). Not likely to be acalculous cholecystitis
   given nl LFTs. S/p cefepime/vancomycin ([**Date range (1) 6671**]) for HAP. C. diff
   negative x 3. Resolved.
   - f/u cxs
   - monitor fever curve, CIS
   .
   # Tachycardia: Baseline, does not appear to be [**1-4**] hypovolemia.
   - continue to monitor.
   # Hypertension: Home amlodipine and HCTZ held in the setting of low
   blood pressures. Now with BPs in 150s
   - discontinue lisinopril 2.5mg
   # Depression: cries occasionally, chronic illness
   - continue citalopram 10mg
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-20**] 02:40 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: hep SC
   Stress ulcer: famotidine
   Communication:  Comments: Daughter
   [**Name (NI) 129**] status: Full code
   Disposition: LTAC, discuss with case management

2151-05-21 07:55:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   - neuro to meet w family on Fri to discuss diagnosis/prognosis (ALS)
   - vent switched back to AC
   - stopped lisinopril
   - stopped gabapentin
   - transitioning from fentanyl gtt to fentanyl patch
   - dispo: [**Hospital1 **] [**Location (un) **] ? Friday (needs to be off fentanyl gtt)
   - continuing loose stools - started loperamide PRN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2151-5-20**] 11:45 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-21**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 70 (60 - 103) bpm
   BP: 97/55(65) {92/51(61) - 153/106(109)} mmHg
   RR: 15 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
             Total In:
                                                                  2,107 mL
                                                                    519 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    354 mL
   IVF:
                                                                    506 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    720 mL
   Urine:
                                                                  2,270 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -163 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 252 (252 - 336) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: ///35/
   Ve: 4.5 L/min
   Physical Examination
   GEN: arousable, occasional smiles
   Skin: vesicular rash on back inferior to right scapula improved
   HEENT: s/p trach, PERRL
   CV: mild tachycardia, no murmurs
   CHEST: b/l breath sounds
   ABD: Soft, Bowel sounds present
   EXTR: warm
   Labs / Radiology
   293 K/uL
   8.9 g/dL
   130 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.6 mEq/L
   7 mg/dL
   100 mEq/L
   140 mEq/L
   27.5 %
   12.4 K/uL
        [image002.jpg]
                             [**2151-5-15**]  04:23 AM
                             [**2151-5-15**]  02:39 PM
                             [**2151-5-15**]  02:42 PM
                             [**2151-5-16**]  05:24 AM
                             [**2151-5-16**]  07:20 AM
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
   WBC
   9.7
   6.3
   6.1
   7.3
   8.4
   12.7
   12.4
   Hct
   27.2
   25.2
   24.3
   27.1
   25.4
   27.3
   27.5
   Plt
   [**Telephone/Fax (2) 6769**]
   293
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.4
   0.3
   TCO2
   34
   32
   Glucose
   114
   107
   116
   172
   196
   151
   130
   Other labs: PT / PTT / INR:12.6/29.8/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:62.8 %, Lymph:28.1 %, Mono:5.1 %,
   Eos:3.8 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 DIARRHEA
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 WOUND INFECTION
 .H/O FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 INEFFECTIVE COPING
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 ALKALOSIS, METABOLIC
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 DYSPHAGIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DELIRIUM / CONFUSION
   52F w progressive neurological deterioration of unclear etiology x 6
   mos c/b PNA requiring ICU admission and intubation no ws/p trach.
   # Low-grade fevers: Continue to improve. Unclear etiology, ddx: line
   infxn (PICC, [**5-4**]) vs s zoster vs underlying chronic inflammatory
   process (CNS vasculitis?). Not likely to be acalculous cholecystitis
   given nl LFTs. S/p cefepime/vancomycin ([**Date range (1) 6671**]) for HAP. C. diff
   negative x 3.
   - f/u cxs
   - monitor fever curve, CIS
   # Respiratory failure: [**1-4**] neuromuscular weakness and overlying PNA
   (aspiration / HAP). S/p tracheostomy [**5-11**]. S/p Complete collapse of LLL
   [**1-4**] mucous plug. S/p zosyn x 8 days (5/29
 [**5-7**]) and
   cefepime/vancomycin ([**Date range (1) 6671**]) for HAP, w cipro double GNR coverage
   ([**Date range (1) 6656**]).
   - f/u cxs
   - continue mech ventilation w trach
   - wean pressure support as tolerated
   - wean sedation
   # Neurologic deterioration: [**1-4**] diffuse white matter disease of unknown
   etiology. Extensive workup done, unrevealing. DDx: CNS vasculitis vs
   demyelinating disorder vs CJD vs unknown. Family would like steroids
   but no brain bx.
   - methylprednisolone 1000mg for 5 days ([**Date range (1) 6706**])
   -? CJD - 14.3.3 protein pending (biomarker for CJD/neuronal
   degradation)
   - review OSH records for HIV test
   - monitor mental status
   - EMG to be arranged by neuro
   # Right shoulder rash: likely shingles, pain improved. Mouth lesion cx
   shows HSV-1, no VZV, hence not likely to be disseminated zoster.
   - acyclovir ([**5-11**] - )
   - gabapentin and lidocaine patch
   - sarna for itching
   # Dysphagia: [**1-4**] neuromuscular weakness, s/p PEG placement [**5-11**].
   - PEG feeds
   - continue NPO
   .
   # Tachycardia: Unclear etiology. Does not appear to be [**1-4**] hypovolemia.
   - continue to monitor.
   # Hypertension: Home amlodipine and HCTZ held in the setting of low
   blood pressures. Now with BPs in 150s
   - start lisinopril 2.5mg
   # Depression: cries occasionally, chronic illness
   - continue citalopram 10mg
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-21**] 02:40 AM 45 mL/hour
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   Code status: Full code
   Disposition: ICU for now, will need transition to LTAC in future

2151-05-22 07:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2151-5-20**] 11:45 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-5-22**] 07:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-22**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 110 (64 - 125) bpm
   BP: 143/96(107) {94/53(62) - 162/96(111)} mmHg
   RR: 24 (10 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,652 mL
                                                                    492 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    353 mL
   IVF:
                                                                    322 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  2,540 mL
                                                                    445 mL
   Urine:
                                                                  2,540 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -888 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 204
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 4.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   306 K/uL
   140 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.8 mEq/L
   8 mg/dL
   101 mEq/L
   140 mEq/L
   30.0 %
   15.6 K/uL
        [image002.jpg]
                             [**2151-5-15**]  02:39 PM
                             [**2151-5-15**]  02:42 PM
                             [**2151-5-16**]  05:24 AM
                             [**2151-5-16**]  07:20 AM
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
   WBC
   6.3
   6.1
   7.3
   8.4
   12.7
   12.4
   15.6
   Hct
   25.2
   24.3
   27.1
   25.4
   27.3
   27.5
   30.0
   Plt
   400
   339
   345
   [**Telephone/Fax (3) 6787**]
   306
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   TCO2
   34
   32
   Glucose
   107
   116
   172
   196
   151
   130
   140
   Other labs: PT / PTT / INR:12.5/28.7/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:62.8 %, Lymph:28.1 %, Mono:5.1 %,
   Eos:3.8 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 DIARRHEA
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 WOUND INFECTION
 .H/O FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 INEFFECTIVE COPING
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 ALKALOSIS, METABOLIC
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 DYSPHAGIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DELIRIUM / CONFUSION
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-21**] 11:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2151-05-22 07:54:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - started PRN PO morphine when agitated, improved tachycardia
   - off fentanyl gtt, fully on patch
   - no bed yet available for long term trach pt
   - ordered Riluzole, however, may not be available in [**Last Name (LF) **], [**First Name3 (LF) 24**] family
   important for a trial of drug
   - family was contact[**Name (NI) **] by neurology
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2151-5-20**] 11:45 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-5-22**] 07:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-22**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 110 (64 - 125) bpm
   BP: 143/96(107) {94/53(62) - 162/96(111)} mmHg
   RR: 24 (10 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,652 mL
                                                                    490 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    352 mL
   IVF:
                                                                    322 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,540 mL
                                                                    445 mL
   Urine:
                                                                  2,540 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -888 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 204
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 4.2 L/min
   Physical Examination
   GEN: arousable, occasional smiles
   Skin: vesicular rash on back inferior to right scapula improved
   HEENT: s/p trach, PERRL
   CV: mild tachycardia, no murmurs
   CHEST: b/l breath sounds
   ABD: Soft, Bowel sounds present
   EXTR: warm
   Labs / Radiology
   306 K/uL
   9.9 g/dL
   140 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.8 mEq/L
   8 mg/dL
   101 mEq/L
   140 mEq/L
   30.0 %
   15.6 K/uL
        [image002.jpg]
                             [**2151-5-15**]  02:39 PM
                             [**2151-5-15**]  02:42 PM
                             [**2151-5-16**]  05:24 AM
                             [**2151-5-16**]  07:20 AM
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
   WBC
   6.3
   6.1
   7.3
   8.4
   12.7
   12.4
   15.6
   Hct
   25.2
   24.3
   27.1
   25.4
   27.3
   27.5
   30.0
   Plt
   400
   339
   345
   [**Telephone/Fax (3) 6787**]
   306
   Cr
   0.4
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   TCO2
   34
   32
   Glucose
   107
   116
   172
   196
   151
   130
   140
   Other labs: PT / PTT / INR:12.5/28.7/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:62.8 %, Lymph:28.1 %, Mono:5.1 %,
   Eos:3.8 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   52F w progressive neurological deterioration x 6 mos c/b PNA requiring
   ICU admission and intubation s/p trach.
   # Neurologic deterioration: [**1-4**] ALS and rapid progression of
   frontotempral dementia.
   - supportive care
   - trial of riluzole, unsure if [**Month/Day (2) **] will be able to attend
   # Respiratory failure: [**1-4**] neuromuscular weakness and overlying PNA
   (aspiration / HAP). S/p tracheostomy [**5-11**]. S/p Complete collapse of LLL
   [**1-4**] mucous plug. S/p zosyn x 8 days (5/29
 [**5-7**]) and
   cefepime/vancomycin ([**Date range (1) 6671**]) for HAP, w cipro double GNR coverage
   ([**Date range (1) 6656**]). Now with fever of 100.3.
   - continue mech ventilation w trach
   - wean pressure support as tolerated
   - continue to wean sedation
   # Right shoulder rash: likely shingles, pain improved. Mouth lesion cx
   shows HSV-1, no VZV, hence not likely to be disseminated zoster.
   - acyclovir ([**5-11**] - )
   - lidocaine patch, fentanyl patch
   - morphine PRN
   - sarna for itching
   # Dysphagia: [**1-4**] neuromuscular weakness, s/p PEG placement [**5-11**].
   - PEG feeds
   - continue NPO
   .
   # Tachycardia: Unclear etiology. Does not appear to be [**1-4**] hypovolemia.
   - continue to monitor.
   # Hypertension: Home amlodipine and HCTZ held in the setting of low
   blood pressures. Now with BPs in 150s
   - monitor BP
   # Depression/Agitation: cries occasionally, chronic illness
   -continue citalopram 10mg
   - started seroquel also for agitation
   .
   # Pain control:
   - fentanyl patch, can titrate as needed
   - PRN PO morphine
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-21**] 11:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: LTAC once bed available

2151-05-23 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2151-5-22**] 10:55 AM
   from right double lumen picc
 BLOOD CULTURED - At [**2151-5-22**] 10:55 AM
   from peripheral stick
 URINE CULTURE - At [**2151-5-22**] 10:55 AM
 SPUTUM CULTURE - At [**2151-5-22**] 11:29 AM
   - low grade temps, U/A+ --> started cipro for UTI
   - CXR - ? retrocardiac opacity - atelectasis vs infiltrate
   - albuterol mdi
   - haldol PRN for agitation w good effect
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2151-5-20**] 11:45 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2151-5-22**] 05:52 PM
   Heparin Sodium (Prophylaxis) - [**2151-5-22**] 09:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-23**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.5
C (97.7
   HR: 69 (69 - 143) bpm
   BP: 98/57(67) {92/57(67) - 154/100(110)} mmHg
   RR: 12 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,704 mL
                                                                    418 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    342 mL
   IVF:
                                                                    240 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    240 mL
   Urine:
                                                                  1,410 mL
                                                                    240 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                   -306 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 144 (144 - 144) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 127
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: ///31/
   Ve: 7.7 L/min
   Physical Examination
   GEN: arousable, occasional smiles
   Skin: vesicular rash on back inferior to right scapula improved
   HEENT: s/p trach, PERRL
   CV: mild tachycardia, no murmurs
   CHEST: b/l breath sounds
   ABD: Soft, Bowel sounds present
   EXTR: warm
   Labs / Radiology
   276 K/uL
   9.3 g/dL
   112 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.2 mEq/L
   9 mg/dL
   101 mEq/L
   140 mEq/L
   28.0 %
   15.7 K/uL
        [image002.jpg]
                             [**2151-5-15**]  02:42 PM
                             [**2151-5-16**]  05:24 AM
                             [**2151-5-16**]  07:20 AM
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
                             [**2151-5-23**]  04:09 AM
   WBC
   6.3
   6.1
   7.3
   8.4
   12.7
   12.4
   15.6
   15.7
   Hct
   25.2
   24.3
   27.1
   25.4
   27.3
   27.5
   30.0
   28.0
   Plt
   400
   339
   345
   [**Telephone/Fax (2) 6814**]76
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.5
   TCO2
   34
   32
   Glucose
   116
   172
   196
   151
   130
   140
   112
   Other labs: PT / PTT / INR:12.9/47.2/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:62.8 %, Lymph:28.1 %, Mono:5.1 %,
   Eos:3.8 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 DIARRHEA
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 WOUND INFECTION
 .H/O FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 INEFFECTIVE COPING
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 ALKALOSIS, METABOLIC
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 DYSPHAGIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DELIRIUM / CONFUSION
   52F w progressive neurological deterioration x 6 mos c/b PNA requiring
   ICU admission and intubation s/p trach.
   # Neurologic deterioration: [**1-4**] ALS and rapid progression of
   frontotempral dementia.
   - supportive care
   - trial of riluzole, unsure if pharm will be able to attend
   # Respiratory failure: [**1-4**] neuromuscular weakness and overlying PNA
   (aspiration / HAP). S/p tracheostomy [**5-11**]. S/p Complete collapse of LLL
   [**1-4**] mucous plug. S/p zosyn x 8 days (5/29
 [**5-7**]) and
   cefepime/vancomycin ([**Date range (1) 6671**]) for HAP, w cipro double GNR coverage
   ([**Date range (1) 6656**]). Now with fever of 100.3.
   - continue mech ventilation w trach
   - wean pressure support as tolerated
   - continue to wean sedation
   # Right shoulder rash: likely shingles, pain improved. Mouth lesion cx
   shows HSV-1, no VZV, hence not likely to be disseminated zoster.
   - acyclovir ([**5-11**] - )
   - lidocaine patch, fentanyl patch
   - morphine PRN
   - sarna for itching
   # Dysphagia: [**1-4**] neuromuscular weakness, s/p PEG placement [**5-11**].
   - PEG feeds
   - continue NPO
   .
   # Tachycardia: Unclear etiology. Does not appear to be [**1-4**] hypovolemia.
   - continue to monitor.
   # Hypertension: Home amlodipine and HCTZ held in the setting of low
   blood pressures. Now with BPs in 150s
   - monitor BP
   # Depression/Agitation: cries occasionally, chronic illness
   -continue citalopram 10mg
   - started seroquel also for agitation
   .
   # Pain control:
   - fentanyl patch, can titrate as needed
   - PRN PO morphine
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-22**] 10:54 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: LTAC once bed available

2151-05-23 08:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2151-5-22**] 10:55 AM
   from right double lumen picc
 BLOOD CULTURED - At [**2151-5-22**] 10:55 AM
   from peripheral stick
 URINE CULTURE - At [**2151-5-22**] 10:55 AM
 SPUTUM CULTURE - At [**2151-5-22**] 11:29 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2151-5-20**] 11:45 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2151-5-22**] 05:52 PM
   Heparin Sodium (Prophylaxis) - [**2151-5-23**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-23**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36
C (96.8
   HR: 68 (68 - 143) bpm
   BP: 98/57(67) {92/57(67) - 154/100(110)} mmHg
   RR: 12 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,704 mL
                                                                    498 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    368 mL
   IVF:
                                                                    240 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                    550 mL
   Urine:
                                                                  1,410 mL
                                                                    550 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                   -306 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 144 (144 - 144) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 127
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: ///31/
   Ve: 7.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   276 K/uL
   112 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.2 mEq/L
   9 mg/dL
   101 mEq/L
   140 mEq/L
   28.0 %
   15.7 K/uL
        [image002.jpg]
                             [**2151-5-15**]  02:42 PM
                             [**2151-5-16**]  05:24 AM
                             [**2151-5-16**]  07:20 AM
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
                             [**2151-5-23**]  04:09 AM
   WBC
   6.3
   6.1
   7.3
   8.4
   12.7
   12.4
   15.6
   15.7
   Hct
   25.2
   24.3
   27.1
   25.4
   27.3
   27.5
   30.0
   28.0
   Plt
   400
   339
   345
   [**Telephone/Fax (2) 6814**]76
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.5
   TCO2
   34
   32
   Glucose
   116
   172
   196
   151
   130
   140
   112
   Other labs: PT / PTT / INR:12.9/47.2/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:62.8 %, Lymph:28.1 %, Mono:5.1 %,
   Eos:3.8 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 DIARRHEA
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 WOUND INFECTION
 .H/O FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 INEFFECTIVE COPING
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 ALKALOSIS, METABOLIC
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 DYSPHAGIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DELIRIUM / CONFUSION
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-22**] 10:54 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2151-05-24 07:24:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   24 Hour Events:
 EKG - At [**2151-5-23**] 11:00 AM
   done for QTC check, on haldol prn
   - urine culture yeast only, d/c'ed cipro
   - responds to haldol for agitation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-5-23**] 03:35 PM
   Haloperidol (Haldol) - [**2151-5-23**] 03:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-24**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.3
C (97.3
   HR: 91 (68 - 116) bpm
   BP: 111/76(84) {95/37(58) - 127/77(90)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
                  Total In:
                                                                  1,539 mL
                                                                    332 mL
   PO:
                  TF:
                                                                  1,089 mL
                                                                    332 mL
   IVF:
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                    880 mL
   Urine:
                                                                  1,330 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    209 mL
                                                                   -549 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 119
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 99%
   ABG: ////
   Ve: 8.2 L/min
   Physical Examination
   GEN: arousable, occasional smiles
   Skin: vesicular rash on back inferior to right scapula improved
   HEENT: s/p trach, PERRL
   CV: mild tachycardia, no murmurs
   CHEST: b/l breath sounds
   ABD: Soft, Bowel sounds present
   EXTR: warm
   Labs / Radiology
   274 K/uL
   9.2 g/dL
   112 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.2 mEq/L
   9 mg/dL
   101 mEq/L
   140 mEq/L
   28.0 %
   14.0 K/uL
        [image002.jpg]
                             [**2151-5-16**]  05:24 AM
                             [**2151-5-16**]  07:20 AM
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
                             [**2151-5-23**]  04:09 AM
                             [**2151-5-24**]  05:29 AM
   WBC
   6.3
   6.1
   7.3
   8.4
   12.7
   12.4
   15.6
   15.7
   14.0
   Hct
   25.2
   24.3
   27.1
   25.4
   27.3
   27.5
   30.0
   28.0
   28.0
   Plt
   400
   339
   345
   [**Telephone/Fax (2) 6825**]
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.5
   TCO2
   32
   Glucose
   116
   172
   196
   151
   130
   140
   112
   Other labs: PT / PTT / INR:12.9/47.2/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:62.8 %, Lymph:28.1 %, Mono:5.1 %,
   Eos:3.8 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   52F w progressive neurological deterioration x 6 mos c/b PNA requiring
   ICU admission and intubation s/p trach, awaiting placement.
   # Neurologic deterioration: [**1-4**] ALS and rapid progression of
   frontotempral dementia. Riluzole not available in US.
   - supportive care
   # Fever: Continues to have low grade fevers. Ua mildly positive on
   Saturday and was started on Cipro which was discontinued as culture
   grew yeast only.
   - f/u cxs
   - CIS
   # Respiratory failure: [**1-4**] neuromuscular weakness and effusion. S/p
   tracheostomy [**5-11**]. S/p zosyn x 8 days (5/29
 [**5-7**]) and
   cefepime/vancomycin ([**Date range (1) 6671**]) for HAP, w cipro double GNR coverage
   ([**Date range (1) 6656**]).
   - continue mech ventilation w trach
   - wean pressure support as tolerated (patient fatigues on prior trials)
   # Agitation: Responds to Haldol.
   - Haloperidol 0.5 mg IV TID:PRN agitation
   - Quetiapine Fumarate 25 mg PO BID:PRN agitation
   # Right shoulder rash: Likely shingles, pain improved. Mouth lesion cx
   shows HSV-1, no VZV, hence not likely to be disseminated zoster.
   Completed course of  Acyclovir (6/9
 [**5-24**]).
   - lidocaine patch, fentanyl patch
   - morphine PRN
   - sarna for itching
   # Dysphagia: [**1-4**] neuromuscular weakness, s/p PEG placement [**5-11**].
   - PEG feeds
   .
   # Tachycardia: Unclear etiology. Does not appear to be [**1-4**] hypovolemia.
   - continue to monitor.
   # Hypertension: Home amlodipine and HCTZ held in the setting of low
   blood pressures. Now with BPs in 150s
   - monitor BP
   # Depression/Agitation: cries occasionally, chronic illness
   - increase citalopram to 20mg
   - started seroquel, haldol for agitation
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-23**] 10:41 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: famotidine
   Communication:  Comments: daughter
   [**Name (NI) 129**] status: Full code
   Disposition: Awaiting placement on trach

2151-05-24 12:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2151-5-23**] 11:00 AM
   done for QTC check, on haldol prn
   No new events.  Up in chair receiving PT.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-5-23**] 03:35 PM
   Haloperidol (Haldol) - [**2151-5-23**] 03:40 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-5-24**] 12:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 86 (68 - 116) bpm
   BP: 112/69(80) {95/37(58) - 127/77(90)} mmHg
   RR: 18 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
                  Total In:
                                                                  1,539 mL
                                                                    661 mL
   PO:
                  TF:
                                                                  1,089 mL
                                                                    561 mL
   IVF:
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                  1,460 mL
   Urine:
                                                                  1,330 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    209 mL
                                                                   -799 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 119
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Awake, alert, but not
   attentive.
   Labs / Radiology
   9.2 g/dL
   274 K/uL
   112 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.2 mEq/L
   9 mg/dL
   101 mEq/L
   140 mEq/L
   28.0 %
   14.0 K/uL
        [image002.jpg]
                             [**2151-5-16**]  05:24 AM
                             [**2151-5-16**]  07:20 AM
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
                             [**2151-5-23**]  04:09 AM
                             [**2151-5-24**]  05:29 AM
   WBC
   6.3
   6.1
   7.3
   8.4
   12.7
   12.4
   15.6
   15.7
   14.0
   Hct
   25.2
   24.3
   27.1
   25.4
   27.3
   27.5
   30.0
   28.0
   28.0
   Plt
   400
   339
   345
   [**Telephone/Fax (2) 6825**]
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.4
   0.5
   TCO2
   32
   Glucose
   116
   172
   196
   151
   130
   140
   112
   Other labs: PT / PTT / INR:12.9/47.2/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:62.8 %, Lymph:28.1 %, Mono:5.1 %,
   Eos:3.8 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   52 yof rapid dementia with associated ALS thus no treatment available
   and poor prognosis.
   ALS -- no proven therapy available.
   Acute Respiratory Failure -- persistent.  Attributed to neuromuscular
   disease.  Continue mechanical ventilation
   RASH -- s/p Zoster right shoulder.
   Agititation -- anxiety.  prn Haldol.
   NUTRITIONAL SUPPORT -- TF at goal.
   Disposition -- awaiting long-term care facility placement.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-23**] 10:41 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2151-05-25 07:03:00 Physician Resident Progress Note
Chief Complaint: Mental status changes
   24 Hour Events:
   - got out of bed and was found on her knees
   - palliative care would like to have meeting arranged with daughter to
   [**Name2 (NI) 6849**] options
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Halidol PRN
   Insulin PRN SSI
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-25**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 87 (74 - 118) bpm
   BP: 86/54(61) {86/54(61) - 139/93(97)} mmHg
   RR: 10 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
                  Total In:
                                                                  1,184 mL
                                                                    316 mL
   PO:
                  TF:
                                                                  1,084 mL
                                                                    316 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    240 mL
   Urine:
                                                                  1,770 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -586 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 137
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 4.8 L/min
   Physical Examination
   General: alert, nonresponsive to verbal command
   HEENT: PERRL, MMM
   Neck: supple, nondeviated, trach in place
   CV: RRR S1 S2, grade II/VI SEM
   Resp: coarse upper respiratory sounds bilaterally
   Abdoman: soft/NT/ND, positive bowel sounds
   Ext: moves all extremities spontaneous; no edema
   Skin:  vesicular rash on right scapula fully resolved, grade II coccyx
   decubitus ulcer as per nursing notes
   Neurologic: unchanged
   Labs / Radiology
   290 K/uL
   9.2 g/dL
   136 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.4 mEq/L
   9 mg/dL
   97 mEq/L
   135 mEq/L
   27.5 %
   16.5 K/uL
        [image002.jpg]
                             [**2151-5-16**]  07:20 AM
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
                             [**2151-5-23**]  04:09 AM
                             [**2151-5-24**]  05:29 AM
                             [**2151-5-25**]  04:53 AM
   WBC
   6.1
   7.3
   8.4
   12.7
   12.4
   15.6
   15.7
   14.0
   16.5
   Hct
   24.3
   27.1
   25.4
   27.3
   27.5
   30.0
   28.0
   28.0
   27.5
   Plt
   [**Telephone/Fax (2) 6850**]
   [**Telephone/Fax (3) 6851**]
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.5
   0.4
   TCO2
   32
   Glucose
   172
   196
   151
   130
   140
   112
   136
   Other labs: PT / PTT / INR:12.9/47.2/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:62.8 %, Lymph:28.1 %, Mono:5.1 %,
   Eos:3.8 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 DIARRHEA
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 WOUND INFECTION
 .H/O FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 INEFFECTIVE COPING
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 ALKALOSIS, METABOLIC
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 DYSPHAGIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DELIRIUM / CONFUSION
   52F w progressive neurological deterioration x 6 mos c/b PNA requiring
   ICU admission and intubation s/p trach, awaiting placement.
   # Neurologic deterioration: [**1-4**] ALS and rapid progression of
   frontotempral dementia. Riluzole not available in US.
   - supportive care
   - need to discuss status with patient
s family and poor prognosis
   # Fever: Continues to have low grade fevers. Ua mildly positive on
   Saturday and was started on Cipro which was discontinued as culture
   grew yeast only.
   - f/u cxs
   - CIS
   # Respiratory failure: [**1-4**] neuromuscular weakness and effusion. S/p
   tracheostomy [**5-11**]. S/p zosyn x 8 days (5/29
 [**5-7**]) and
   cefepime/vancomycin ([**Date range (1) 6671**]) for HAP, w cipro double GNR coverage
   ([**Date range (1) 6656**]).
   - continue mech ventilation w trach
   - wean pressure support as tolerated (patient fatigues on prior trials)
   # Agitation: Responds to Haldol.
   - Haloperidol 0.5 mg IV TID:PRN agitation
   - Quetiapine Fumarate 25 mg PO BID:PRN agitation
   # Right shoulder rash: Likely shingles, pain improved. Mouth lesion cx
   shows HSV-1, no VZV, hence not likely to be disseminated zoster.
   Completed course of  Acyclovir (6/9
 [**5-24**]).
   - lidocaine patch, fentanyl patch
   - morphine PRN
   - sarna for itching
   # Dysphagia: [**1-4**] neuromuscular weakness, s/p PEG placement [**5-11**].
   - PEG feeds
   .
   # Tachycardia: Unclear etiology, resolving
   - continue to monitor.
   # Hypertension: Home amlodipine and HCTZ held in the setting of low
   blood pressures. Now with BPs in 150s
   - continue monitor BP
   # Depression/Agitation: cries occasionally, chronic illness
   - increase citalopram to 20mg
   - started seroquel, haldol for agitation
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-24**] 10:36 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Contact [**First Name8 (NamePattern2) 1283**] [**Last Name (NamePattern1) 2922**] Re: placement

2151-05-25 11:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated mechanically ventilated.
   Exhibiting emotional lability.
   Fell from bed yesterday, onto knees -- no clinical consequences.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-5-25**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 94 (74 - 118) bpm
   BP: 109/68(78) {86/52(60) - 139/93(97)} mmHg
   RR: 14 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
                  Total In:
                                                                  1,184 mL
                                                                    531 mL
   PO:
                  TF:
                                                                  1,084 mL
                                                                    531 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    420 mL
   Urine:
                                                                  1,770 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -586 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 137
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   290 K/uL
   136 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.4 mEq/L
   9 mg/dL
   97 mEq/L
   135 mEq/L
   27.5 %
   16.5 K/uL
        [image002.jpg]
                             [**2151-5-16**]  07:20 AM
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
                             [**2151-5-23**]  04:09 AM
                             [**2151-5-24**]  05:29 AM
                             [**2151-5-25**]  04:53 AM
   WBC
   6.1
   7.3
   8.4
   12.7
   12.4
   15.6
   15.7
   14.0
   16.5
   Hct
   24.3
   27.1
   25.4
   27.3
   27.5
   30.0
   28.0
   28.0
   27.5
   Plt
   [**Telephone/Fax (3) 6850**]
   [**Telephone/Fax (3) 6851**]
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.5
   0.4
   TCO2
   32
   Glucose
   172
   196
   151
   130
   140
   112
   136
   Other labs: PT / PTT / INR:12.9/47.2/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:62.8 %, Lymph:28.1 %, Mono:5.1 %,
   Eos:3.8 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   52 yof rapid dementia with associated ALS thus no treatment available
   and poor prognosis.
   ALS -- Predominately bulbar.  No available therapy available.  Arrange
   for discussion with family and Neurology service.
   Acute Respiratory Failure -- persistent.  Attributed to neuromuscular
   disease.  Continue mechanical ventilation
   RASH -- s/p Zoster right shoulder.
   Agititation -- anxiety.  prn Haldol.
   NUTRITIONAL SUPPORT -- TF at goal.
   Disposition -- awaiting long-term care facility placement.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-24**] 10:36 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2151-05-26 06:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -WBC trending up
   -no acute events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2151-5-25**] 01:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-26**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 85 (77 - 115) bpm
   BP: 85/69(73) {85/52(60) - 138/84(91)} mmHg
   RR: 20 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
                  Total In:
                                                                  1,141 mL
                                                                    269 mL
   PO:
                  TF:
                                                                  1,081 mL
                                                                    269 mL
   IVF:
   Blood products:
   Total out:
                                                                    870 mL
                                                                    230 mL
   Urine:
                                                                    870 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    271 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 301 (285 - 390) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 7.8 L/min
   Physical Examination
   Gen: Pt lying comfortably in bed on vent
   HEENT: MMM, trach in place
   Pulm: diffuse rhonchi
   CV:RRR
   Abd: soft, non-tender, non distended
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  No evidence of rash or lesion
   Ext: no CCE
   Neurologic: Responds to comands
   Labs / Radiology
   277 K/uL
   9.7 g/dL
   124 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.7 mEq/L
   9 mg/dL
   95 mEq/L
   135 mEq/L
   29.2 %
   17.0 K/uL
        [image002.jpg]
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
                             [**2151-5-23**]  04:09 AM
                             [**2151-5-24**]  05:29 AM
                             [**2151-5-25**]  04:53 AM
                             [**2151-5-26**]  04:14 AM
   WBC
   6.1
   7.3
   8.4
   12.7
   12.4
   15.6
   15.7
   14.0
   16.5
   17.0
   Hct
   24.3
   27.1
   25.4
   27.3
   27.5
   30.0
   28.0
   28.0
   27.5
   29.2
   Plt
   [**Telephone/Fax (3) 6850**]
   [**Telephone/Fax (3) 6851**]
   277
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.5
   0.4
   0.4
   Glucose
   172
   196
   151
   130
   140
   112
   136
   124
   Other labs: PT / PTT / INR:12.9/47.2/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:78.5 %, Lymph:11.3 %, Mono:6.8 %,
   Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.4 mg/dL, Mg++:0.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 DIARRHEA
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 WOUND INFECTION
 .H/O FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 INEFFECTIVE COPING
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 ALKALOSIS, METABOLIC
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 DYSPHAGIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DELIRIUM / CONFUSION
   52F w progressive neurological deterioration x 6 mos c/b PNA requiring
   ICU admission and intubation s/p trach, awaiting placement.
   # Neurologic deterioration: [**1-4**] ALS and rapid progression of
   frontotempral dementia as per neurology. Riluzole not available in US.
   - supportive care
   - plan to transfer to facility.  Will call to confirm plan with
   daughter this afternoon.
   # Elevated: Afebrile.  Cxs negative to date.  Pt was negative for
   C.diff on the 14^th, however will re-test for c. diff given elevated
   WBC.
   - f/u cxs
   - CIS
   -c diff pending
   # Respiratory failure: [**1-4**] neuromuscular weakness and effusion. S/p
   tracheostomy [**5-11**]. S/p zosyn x 8 days (5/29
 [**5-7**]) and
   cefepime/vancomycin ([**Date range (1) 6671**]) for HAP, w cipro double GNR coverage
   ([**Date range (1) 6656**]).
   - continue mech ventilation w trach, will transfer on vent
   - wean pressure support to [**4-11**] today as tolerated (patient fatigues on
   prior trials)
   # Agitation: Responds to Haldol.
   - Haloperidol 0.5 mg IV TID:PRN agitation
   - Quetiapine Fumarate 25 mg PO BID:PRN agitation
   # Right shoulder rash: Likely shingles, no evidence of rash on exam
   today. Completed course of  Acyclovir (6/9
 [**5-24**]).
   - lidocaine patch, fentanyl patch
   - morphine PRN
   - sarna for itching
   # Dysphagia: [**1-4**] neuromuscular weakness, s/p PEG placement [**5-11**].
   - PEG feeds
   - diarrhea: r/o for c.diff ([**5-16**]) likely [**1-4**] to tube feeds, continue
   banana flakes
   .
   # Tachycardia: Resolved
   # Hypertension: Home amlodipine and HCTZ held in the setting of low
   blood pressures. Blood pressures WNL o/n
   - continue monitor BP, will consider re-starting BP meds on DC.
   # Depression/Agitation: cries occasionally, chronic illness
   - increase citalopram to 20mg
   - started seroquel, haldol for agitation
   # transfer to long term care facility today, will discuss with daughter
   ICU [**Name2 (NI) 232**]
   Nutrition:
   [**Name (NI) 6873**] HN (Full) - [**2151-5-25**] 10:34 PM 45 mL/hour
   Glycemic Control: SSI
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: with daughter, will contact today in regards
   to DC.
   Code status: Full code
   Disposition: stable

2151-05-26 11:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2151-5-25**] 01:38 PM
   Heparin Sodium (Prophylaxis) - [**2151-5-26**] 07:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-5-26**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 106 (77 - 115) bpm
   BP: 120/72(83) {85/56(69) - 138/84(91)} mmHg
   RR: 14 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
                  Total In:
                                                                  1,141 mL
                                                                    570 mL
   PO:
                  TF:
                                                                  1,081 mL
                                                                    510 mL
   IVF:
   Blood products:
   Total out:
                                                                    870 mL
                                                                    750 mL
   Urine:
                                                                    870 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    271 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 295 (285 - 390) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 15 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   277 K/uL
   124 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.7 mEq/L
   9 mg/dL
   95 mEq/L
   135 mEq/L
   29.2 %
   17.0 K/uL
        [image002.jpg]
                             [**2151-5-17**]  04:10 AM
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
                             [**2151-5-23**]  04:09 AM
                             [**2151-5-24**]  05:29 AM
                             [**2151-5-25**]  04:53 AM
                             [**2151-5-26**]  04:14 AM
   WBC
   6.1
   7.3
   8.4
   12.7
   12.4
   15.6
   15.7
   14.0
   16.5
   17.0
   Hct
   24.3
   27.1
   25.4
   27.3
   27.5
   30.0
   28.0
   28.0
   27.5
   29.2
   Plt
   [**Telephone/Fax (3) 6850**]
   [**Telephone/Fax (3) 6851**]
   277
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.5
   0.4
   0.4
   Glucose
   172
   196
   151
   130
   140
   112
   136
   124
   Other labs: PT / PTT / INR:12.9/47.2/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:78.5 %, Lymph:11.3 %, Mono:6.8 %,
   Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.4 mg/dL, Mg++:0.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   52 yof rapid dementia with associated ALS thus no treatment available
   and poor prognosis.
   ALS -- Predominately bulbar.  No available therapy available.  Arrange
   for discussion with family and Neurology service.
   Acute Respiratory Failure -- persistent.  Attributed to neuromuscular
   disease.  Continue mechanical ventilation
   RASH -- s/p Zoster right shoulder.
   Dementia -- rapidly progressive, distinct process from ALS?
   Agititation -- anxiety.  prn Haldol.
   NUTRITIONAL SUPPORT -- TF at goal.
   Disposition -- awaiting long-term care facility placement.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-25**] 10:34 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2151-05-27 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -pt stable, awaiting DC.  Nursing facility currently refusing transfer.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-5-26**] 08:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-27**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.6
C (97.9
   HR: 98 (82 - 115) bpm
   BP: 123/77(85) {80/54(62) - 125/77(87)} mmHg
   RR: 17 (14 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
                  Total In:
                                                                  1,700 mL
                                                                    314 mL
   PO:
                  TF:
                                                                  1,080 mL
                                                                    314 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    300 mL
   Urine:
                                                                  1,410 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    290 mL
                                                                     14 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 376 (281 - 376) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 13 cmH2O
   SpO2: 99%
   ABG: ///21/
   Ve: 7.5 L/min
   Physical Examination
   Gen: lying in bed, NAD
   HEENT: EOMI, PERRLA, MMM
   Pulm: Rhonchorous bilateraly, on vent
   Cardiac: RRR, 2/6 SEM heard loudest in the R USB
   Peripheral Vascular: strong radial and DP pulses
   Skin:  No lesions or rashes
   Neurologic: moves eyes to voice, follows simple commands
   Labs / Radiology
   157 K/uL
   10.5 g/dL
   225 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   19 mg/dL
   105 mEq/L
   135 mEq/L
   30.0 %
   6.0 K/uL
        [image002.jpg]
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
                             [**2151-5-23**]  04:09 AM
                             [**2151-5-24**]  05:29 AM
                             [**2151-5-25**]  04:53 AM
                             [**2151-5-26**]  04:14 AM
                             [**2151-5-27**]  03:59 AM
   WBC
   7.3
   8.4
   12.7
   12.4
   15.6
   15.7
   14.0
   16.5
   17.0
   6.0
   Hct
   27.1
   25.4
   27.3
   27.5
   30.0
   28.0
   28.0
   27.5
   29.2
   30.0
   Plt
   [**Telephone/Fax (3) **]93
   [**Telephone/Fax (2) 6894**]90
   277
   157
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.5
   0.4
   0.4
   0.9
   Glucose
   172
   196
   151
   130
   140
   112
   136
   124
   225
   Other labs: PT / PTT / INR:12.9/47.2/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:78.5 %, Lymph:11.3 %, Mono:6.8 %,
   Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.4 mg/dL, Mg++:0.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 DIARRHEA
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 WOUND INFECTION
 .H/O FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 INEFFECTIVE COPING
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 ALKALOSIS, METABOLIC
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
 DYSPHAGIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DELIRIUM / CONFUSION
   52F w progressive neurological deterioration x 6 mos c/b PNA requiring
   ICU admission and intubation s/p trach, awaiting placement.
   # Neurologic deterioration: [**1-4**] ALS and rapid progression of
   frontotempral dementia as per neurology. Riluzole not available in US.
   - supportive care
   - plan to transfer to facility when available for long term care
   # Elevated WBC: Afebrile.  Cxs negative to date.  Pt was negative for
   C.diff on the 14^th and 25^th.  WBC has decreased but given precipitous
   drop we were concerned for lab error and re-drew.  New results show
   only slight improvement from yesterday.   Suspect elevation was
   secondary to steroid dose given last week.
   - will continue to follow cultures
   - CIS
   # Respiratory failure: [**1-4**] neuromuscular weakness and effusion. S/p
   tracheostomy [**5-11**]. S/p zosyn x 8 days (5/29
 [**5-7**]) and
   cefepime/vancomycin ([**Date range (1) 6671**]) for HAP, w cipro double GNR coverage
   ([**Date range (1) 6656**]).   Given + PPD, checking AFBs as requested by care facility
   -AFBs x3 pending
   - continue mech ventilation w trach
   - wean pressure support to [**4-6**] today as tolerated, trach collar
   # Agitation: Responds to Haldol. Pt attempted ambulation without
   assistance overnight.
   - Haloperidol 0.5 mg IV TID:PRN agitation
   - Quetiapine Fumarate 25 mg PO BID:PRN agitation
   # Right shoulder rash: Likely shingles, no evidence of rash on exam
   today. Completed course of  Acyclovir (6/9
 [**5-24**]).
   - lidocaine patch, fentanyl patch
   - morphine PRN
   - sarna for itching
   # Dysphagia: [**1-4**] neuromuscular weakness, s/p PEG placement [**5-11**].
   - PEG feeds
   - diarrhea: r/o for c.diff ([**5-16**]) likely [**1-4**] to tube feeds, continue
   banana flakes
   .
   # Hypertension: Home amlodipine and HCTZ held in the setting of low
   blood pressures. Blood pressures WNL o/n
   - continue monitor BP, will consider re-starting BP meds on DC.
   .
   # Depression/Agitation: cries occasionally, chronic illness
   - increase citalopram to 20mg
   - started seroquel, haldol for agitation
   # transfer to long term care facility when possible
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-26**] 10:27 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: subcu heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to chronic care facility

2151-05-27 11:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Self-transferred from bed to standing position.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-5-27**] 07:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-5-27**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.2
C (97.1
   HR: 96 (78 - 105) bpm
   BP: 133/67(85) {80/54(62) - 133/79(90)} mmHg
   RR: 17 (15 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,700 mL
                                                                    938 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    530 mL
   IVF:
   188 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    680 mL
   Urine:
                                                                  1,410 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    290 mL
                                                                    258 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 321 (281 - 376) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///21/
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   157 K/uL
   225 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   19 mg/dL
   105 mEq/L
   135 mEq/L
   30.0 %
   6.0 K/uL
        [image002.jpg]
                             [**2151-5-18**]  03:34 AM
                             [**2151-5-19**]  03:36 AM
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
                             [**2151-5-23**]  04:09 AM
                             [**2151-5-24**]  05:29 AM
                             [**2151-5-25**]  04:53 AM
                             [**2151-5-26**]  04:14 AM
                             [**2151-5-27**]  03:59 AM
   WBC
   7.3
   8.4
   12.7
   12.4
   15.6
   15.7
   14.0
   16.5
   17.0
   6.0
   Hct
   27.1
   25.4
   27.3
   27.5
   30.0
   28.0
   28.0
   27.5
   29.2
   30.0
   Plt
   [**Telephone/Fax (3) **]93
   [**Telephone/Fax (2) 6894**]90
   277
   157
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.5
   0.4
   0.4
   0.9
   Glucose
   172
   196
   151
   130
   140
   112
   136
   124
   225
   Other labs: PT / PTT / INR:12.9/47.2/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:78.5 %, Lymph:11.3 %, Mono:6.8 %,
   Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   52 yof rapid dementia with associated ALS thus no treatment available
   and poor prognosis.
   ALS -- Predominately bulbar.  No available therapy available.  Arrange
   for discussion with family and Neurology service.
   ACUTE RESPIRATORY FAILURE -- persistent.  Attributed to neuromuscular
   disease.  Continue mechanical ventilation --> work towards trach collar
   trial.
   RASH -- s/p Zoster right shoulder.
   DEMENTIA -- rapidly progressive, distinct process from ALS?
   AGITATION  -- anxiety.  prn Haldol.
   NUTRITIONAL SUPPORT -- TF at goal.
   +PPD -- will check sputum AFB x 3 per rehab.
   DISPOSITION -- awaiting long-term care facility placement.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-26**] 10:27 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2151-05-28 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt did not tolerate PS 5/5 so was returned to PS 10/5
   One episode of ventricular bigeminy resolved without intervention
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-5-27**] 09:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-5-28**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 91 (78 - 112) bpm
   BP: 110/63(74) {84/53(62) - 167/89(109)} mmHg
   RR: 17 (14 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
                  Total In:
                                                                  1,900 mL
                                                                    679 mL
   PO:
                  TF:
                                                                  1,080 mL
                                                                    299 mL
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    190 mL
   Urine:
                                                                  1,380 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    520 mL
                                                                    489 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 255 (245 - 356) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///35/
   Ve: 5.6 L/min
   Physical Examination
   Gen: lying in bed, NAD, trach, Left hand in glove to restrain her from
   pulling out trach.
   HEENT: EOMI, PERRLA, MMM, trach secured in place, no secretions or sign
   of infection from trach site.
   Pulm: Rhonchorous bilateraly, trach
   Cardiac: RRR, 2/6 SEM heard loudest in the R USB
   Abdomen: soft, non-tender, non-distended, peg-tube in place.
   Peripheral Vascular: strong radial and DP pulses
   Skin:  No lesions or rashes
   Neurologic: moves eyes to voice, follows simple commands, movement
   slow, weakness in all 4 extremities with Right greater than left.
   Labs / Radiology
   260 K/uL
   9.3 g/dL
   116 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.3 mEq/L
   11 mg/dL
   95 mEq/L
   137 mEq/L
   29.5 %
   15.2 K/uL
        [image002.jpg]
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
                             [**2151-5-23**]  04:09 AM
                             [**2151-5-24**]  05:29 AM
                             [**2151-5-25**]  04:53 AM
                             [**2151-5-26**]  04:14 AM
                             [**2151-5-27**]  03:59 AM
                             [**2151-5-27**]  12:58 PM
                             [**2151-5-28**]  03:59 AM
   WBC
   12.7
   12.4
   15.6
   15.7
   14.0
   16.5
   17.0
   6.0
   15.4
   15.2
   Hct
   27.3
   27.5
   30.0
   28.0
   28.0
   27.5
   29.2
   30.0
   30.5
   29.5
   Plt
   [**Telephone/Fax (2) 6923**]
   277
   157
   254
   260
   Cr
   0.4
   0.3
   0.4
   0.5
   0.4
   0.4
   0.9
   0.5
   0.4
   Glucose
   151
   130
   140
   112
   136
   124
   [**Telephone/Fax (3) 6924**]
   Other labs: PT / PTT / INR:12.9/47.2/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:78.5 %, Lymph:11.3 %, Mono:6.8 %,
   Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Rads: no new studies
   Micro: c.diff negative, AFB x 2 pending, recent Bcx and Ucx negative
   Assessment and Plan
 DIARRHEA
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 WOUND INFECTION
 INEFFECTIVE COPING
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive neurologic decline
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 DELIRIUM / CONFUSION
   52F w progressive neurological deterioration x 6 mos c/b PNA requiring
   ICU admission and intubation s/p trach, awaiting placement.
   # Neurologic deterioration: [**1-4**] ALS and rapid progression of
   frontotempral dementia as per neurology. Riluzole not available in US.
   - supportive care
   - plan to transfer to facility [**5-28**] at 2pm, will follow-up on AFB
   # Elevated WBC: Afebrile.  Cxs negative to date.  Pt was negative for
   C.diff on the 14^th and 25^th.  WBC have decreased over last week,
   continue to decline.   Suspect elevation secondary to steroids last
   week
   - will continue to follow cultures
   - CIS
   # Respiratory failure: [**1-4**] neuromuscular weakness and effusion. S/p
   tracheostomy [**5-11**]. s/p tx for HAP.   Given + PPD, checking AFBs as
   requested by care facility. Pt went into Ventricular Bigeminy when she
   pulled her trach out.  One episode of Ventricular Bigeminy this am as
   well
pt asymptommatic.
   - AFBs x3 pending
   - continue mech ventilation w trach on PS 10/5
   - wean as tolerated, trach collar
   - follow lytes for v. bigeminy
   # Agitation: Responds to Haldol.
   - Haloperidol 0.5 mg IV TID:PRN agitation
   - Quetiapine Fumarate 25 mg PO BID:PRN agitation
   # Right shoulder rash: Likely shingles, no evidence of rash for 2 days.
   Completed course of  Acyclovir (6/9
 [**5-24**]).
   - lidocaine patch, fentanyl patch
   - morphine PRN
   - sarna for itching
   # Dysphagia: [**1-4**] neuromuscular weakness, s/p PEG placement [**5-11**].
   - PEG feeds
   - diarrhea: continue banana flakes
   # Hypertension: Home amlodipine and HCTZ held in the setting of low
   blood pressures. Blood pressures WNL o/n
   - continue monitor BP, will consider re-starting BP meds on DC.
   # Depression/Agitation: cries occasionally, chronic illness
   - continue citalopram to 20mg
   - seroquel, haldol for agitation
   # transfer to long term care facility
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-27**] 10:20 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Discharge to LTAC at 2 pm [**2151-5-28**]

2151-05-28 12:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.
   Poor tolerance for SBT yesterday (low IPS).
   Transient ventricular bigeminy this AM, without hemodynamic compromise
   or  clinical consequence.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-5-28**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-5-28**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 113 (80 - 115) bpm
   BP: 121/83(92) {84/53(62) - 180/104(121)} mmHg
   RR: 21 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 41.5 kg (admission): 43.8 kg
   Height: 64 Inch
                  Total In:
                                                                  1,900 mL
                                                                    988 mL
   PO:
                  TF:
                                                                  1,080 mL
                                                                    538 mL
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    400 mL
   Urine:
                                                                  1,380 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    520 mL
                                                                    588 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 292 (245 - 356) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Tracheotomy tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   No(t) Distended, No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): ox3, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   260 K/uL
   116 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.3 mEq/L
   11 mg/dL
   95 mEq/L
   137 mEq/L
   29.5 %
   15.2 K/uL
        [image002.jpg]
                             [**2151-5-20**]  03:45 AM
                             [**2151-5-21**]  04:08 AM
                             [**2151-5-22**]  05:04 AM
                             [**2151-5-23**]  04:09 AM
                             [**2151-5-24**]  05:29 AM
                             [**2151-5-25**]  04:53 AM
                             [**2151-5-26**]  04:14 AM
                             [**2151-5-27**]  03:59 AM
                             [**2151-5-27**]  12:58 PM
                             [**2151-5-28**]  03:59 AM
   WBC
   12.7
   12.4
   15.6
   15.7
   14.0
   16.5
   17.0
   6.0
   15.4
   15.2
   Hct
   27.3
   27.5
   30.0
   28.0
   28.0
   27.5
   29.2
   30.0
   30.5
   29.5
   Plt
   [**Telephone/Fax (3) 6923**]
   277
   157
   254
   260
   Cr
   0.4
   0.3
   0.4
   0.5
   0.4
   0.4
   0.9
   0.5
   0.4
   Glucose
   151
   130
   140
   112
   136
   124
   [**Telephone/Fax (3) 6924**]
   Other labs: PT / PTT / INR:12.9/47.2/1.1, ALT / AST:32/51, Alk Phos / T
   Bili:65/0.2, Differential-Neuts:78.5 %, Lymph:11.3 %, Mono:6.8 %,
   Eos:3.2 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:275 IU/L,
   Ca++:9.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   52 yof rapid dementia with associated ALS thus no treatment available
   and poor prognosis.
   ALS -- Predominately bulbar.  No available therapy available.  Arrange
   for discussion with family and Neurology service.
   ACUTE RESPIRATORY FAILURE -- persistent.  Attributed to neuromuscular
   disease.  Continue mechanical ventilation --> work towards trach collar
   trial.
   RASH -- s/p Zoster right shoulder.
   DEMENTIA -- rapidly progressive, presumed distinct process from ALS.
   AGITATION  -- anxiety.  prn Haldol.
   NUTRITIONAL SUPPORT -- TF at goal.
   +PPD -- will check sputum AFB x 3 per rehab request.
   DISPOSITION [**Hospital **] transfer to  long-term care facility placement
   anticipated today.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-5-27**] 10:20 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-5-4**] 10:40 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill